2123-05-14 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Patient had PICC line removed and tip sent for culture.  Spiked fever
   to 102 and received tylenol.  NGT in satisfactory position, got oral
   barium for CT abd/pelvis. Pt with respiratory rate 25-35 overnight.
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2123-5-13**] 08:47 PM
   Micafungin - [**2123-5-14**] 05:41 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-5-14**] 06:20 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-5-13**] 08:47 PM
   Fentanyl - [**2123-5-13**] 11:52 PM
   Other medications:
   Changes to medical and family history:
   Unchanged
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unchanged
   Flowsheet Data as of  [**2123-5-14**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 39.3
C (102.8
   Tcurrent: 37.7
C (99.9
   HR: 93 (93 - 119) bpm
   BP: 135/76(89) {96/58(67) - 137/94(104)} mmHg
   RR: 35 (26 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,454 mL
                                                                    165 mL
   PO:
             TF:
   IVF:
                                                                  1,454 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                    980 mL
                                                                    985 mL
   Urine:
                                                                    700 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
                                                                    280 mL
                                                                    275 mL
   Balance:
                                                                    474 mL
                                                                   -820 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   Plateau: 23 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.47/32/172/20/1
   Ve: 16.9 L/min
   PaO2 / FiO2: 430
   Physical Examination
   Gen: Intubated, not responsive to verbal stimuli
   HEENT: NCAT, tracheostomy in place
   Pulm: CTAB no rales/rhonchi/wheezes
   CVS: RRR with normal S1 and S2, No m/g/r
   Abd: Multiple drains in place.  T tube draining biliary fluid, other JP
   drains draining green fluid. Midline incision c/d/I with staples in
   place.
   Ext: Trace pitting edema bilateral LE. 2+ pedal pulses.
   Labs / Radiology
   309 K/uL
   9.3 g/dL
   125 mg/dL
   1.4 mg/dL
   20 mEq/L
   4.5 mEq/L
   81 mg/dL
   113 mEq/L
   145 mEq/L
   28.1 %
   11.7 K/uL
        [image002.jpg]
                             [**2123-5-13**]  05:27 PM
                             [**2123-5-14**]  03:26 AM
                             [**2123-5-14**]  03:32 AM
   WBC
   12.8
   11.7
   Hct
   27.6
   28.1
   Plt
   283
   309
   Cr
   1.7
   1.4
   TCO2
   24
   Glucose
   95
   125
   Other labs: PT / PTT / INR:16.4/30.8/1.4, ALT / AST:439/462, Alk Phos /
   T Bili:151/11.2, Amylase / Lipase:/21, Differential-Neuts:84.3 %,
   Lymph:12.1 %, Mono:2.4 %, Eos:0.7 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:399 IU/L, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:4.9
   mg/dL
   CXR:
   Trach Terminating 5.8 cm above carina.  NGT terminating below diaphragm
   with tip off the film. Bibasilar atelectasis.
   CT Torso with PO contrast:
   Abd/pelvis: Complex post-surgical anatomy is difficult to delineate.
   Oral contrast is seen in the stomach and within a bowel loop descending
   anteriorly near the midline, which is presumed to represent the jejunal
   limb anastamosed to the first portion of the duodenum. Additional
   contrast is seen in the third and fourth portions of the duodenum,
   which per the surgical team are not
   contiguous with the first portion of the duodenum. this may reflect
   contrast reflux vs contrast from prior t-tube fluoro studies.
   There is no intraabdominal fluid collection, though there is extensive
   stranding in the region of the duodeunm and pancreatic head, likely
   post-surgical. the left anterior abdominal wall collections are
   essentially resolved, though there is again significant inflammatory
   change that persists. two drains are noted in this region. of note,
   more inferiorly in the abdominal wall there (2:100-104 and 300b:25)
   there is hyperdense material noted. given hx of possible feculant would
   drainage, this may represent extraluminal contrast suggesting fistula
   vs alternatively post-[**Doctor First Name 91**] material
   from component seperation/mesh repair.
   Drains/tubes: Gastrostomy in LUQ laterally. Two subQ drains, on
   entering on left and one entering on right, both coursing through the
   right subQ tissue, superficial to the abdominal wall, at the site of
   prior large fluid collection. T-tube appears to be appropriatly
   positioned, extending from the duodenum to the region of the porta,
   exiting in RUQ.
   Assessment and Plan
   74 y.o. male s/p multiple surgical interventions at an OSH now being
   transferred to [**Hospital1 5**] with concern for infected mesh, infected hematoma,
   and respiratory failure.
   # Fever: Likely abdominal source given Klebsiella, Enterococcus from a
   hematoma at his surgical wound site.  Concern for infected mesh +/-
   hematoma.
   - Trend temp curve, WBC
   - Send blood cultures, urine culture, sputum culture, biliary cx, 3 JPs
   cx
   - f/u culture data from all drain sites
   - Continue GNB coverage with IV Abx, Vanc and Zosyn
   - Micafungin for yeast
   - Surgery team consult (Dr. [**Last Name (STitle) **]; f/u any recommendations
   - ID consult in AM
   - Resite lines (obtain peripherals, pulled PICC)
   - TTE today for ? endocarditis
   .
   # Head Bobbing: ? seizure activity.  Started yesterday per daughter. [**Name (NI) **]
   history of seizures in the past, though decreased rhythmic activity
   over night.
   - EEG
   - head CT
   .
   # Elevated LFTs: possibly due to hypoperfusion vs. hepatitis C
   infection
   - continue to trend
   .
   # ARF: Reached peak of 1.9 from baseline of 1.0. Likely prerenal given
   elevated sodium
   - patient received fluid bolus with 1L NS and had creatinine drop to
   1.4 and sodium to 145.
   - continue IVF boluses as needed.
   .
   # Constipation: stool seen on OSH CT scan, no BM in several days
   - repeat erythromycin, protonix, reglan as CT scan did not show
   evidence of obstruction
   - ? bowel regimen
   .
   # Respiratory failure: Trached, on vent; patient tachypneic overnight
   with RR 30s.  ABG with primary respiratory alkalosis.
   - continue on volume assist control.
   .
   # CAD: on b-blocker, statin, aspirin at home, not continued at OSH
   - continue to hold pending acute infection
   .
   # Aortic regurgitation:
   - Monitor volume status and hemodynamics
   .
   # FEN: No IVF, replete electrolytes, TPN when has access
   # Prophylaxis: Subcutaneous heparin
   # Access: PIV x 2
   # Communication: daughter [**Name (NI) 532**] [**Known lastname 12477**] is HCP [**Telephone/Fax (1) 12482**].
   # Code:  Full per HCP daughter
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2123-5-13**] 08:53 PM
   18 Gauge - [**2123-5-13**] 08:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2123-05-15 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2123-5-14**]:
   - GNR growing from multiple peritoneal fluid cultures
   - Had episode of melena today - seen by GI consult, who would like to
   discuss percutaneous cholangiogram with surgery (surgery will get back
   to us)
   - Patient with resp alkalosis; took off of pressure support for a while
   overnight with decreased RR, also got Fentanyl 25
   - Seen by ID consult: recs include repeat abdominal CT (not ordered; pt
   cannot receive contrast) and MRI/duplex of PV (not ordered as unclear
   whether pt stable for MRI)
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2123-5-14**] 08:37 PM
   Micafungin - [**2123-5-15**] 05:38 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-5-15**] 05:38 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-5-14**] 08:37 PM
   Heparin Sodium (Prophylaxis) - [**2123-5-15**] 04:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-5-15**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.3
C (99.1
   HR: 91 (87 - 103) bpm
   BP: 151/84(102) {141/71(88) - 168/94(108)} mmHg
   RR: 31 (19 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,000 mL
                                                                    277 mL
   PO:
             TF:
   IVF:
                                                                  1,000 mL
                                                                    277 mL
   Blood products:
   Total out:
                                                                  3,126 mL
                                                                    990 mL
   Urine:
                                                                  2,631 mL
                                                                    890 mL
   NG:
   Stool:
   Drains:
                                                                    495 mL
                                                                    100 mL
   Balance:
                                                                 -2,126 mL
                                                                   -713 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PPS
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 486 (486 - 656) mL
   PS : 15 cmH2O
   RR (Set): 24
   RR (Spontaneous): 40
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.52/24/176/19/0
   Ve: 17.1 L/min
   PaO2 / FiO2: 440
   Physical Examination
   General: ill-appearing man, unresponsive with eyes open and head
   bobbing
   HEENT: Sclera anicteric, MMM, NGT in place
   Neck: supple, JVP not elevated, no LAD, trach collar in place
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, multiple drains in place including: colostomy, biliary
   drain, 3 JP drains, GJ tube
   GU: foley in place
   Ext: L foot heel ulcer, wrapped
   Labs / Radiology
   317 K/uL
   9.4 g/dL
   115 mg/dL
   1.6 mg/dL
   19 mEq/L
   3.5 mEq/L
   84 mg/dL
   119 mEq/L
   153 mEq/L
   28.1 %
   11.8 K/uL
        [image002.jpg]
                             [**2123-5-13**]  05:27 PM
                             [**2123-5-14**]  03:26 AM
                             [**2123-5-14**]  03:32 AM
                             [**2123-5-14**]  02:03 PM
                             [**2123-5-14**]  04:04 PM
                             [**2123-5-14**]  08:41 PM
                             [**2123-5-15**]  04:40 AM
   WBC
   12.8
   11.7
   11.2
   11.8
   Hct
   27.6
   28.1
   28.8
   28.8
   28.1
   Plt
   [**Telephone/Fax (3) 12520**]17
   Cr
   1.7
   1.4
   2.0
   1.6
   TCO2
   24
   20
   Glucose
   95
   125
   121
   115
   Other labs: PT / PTT / INR:16.2/27.8/1.4,             ALT /
   AST:585/416, Alk Phos / T Bili:232/12.1
   Differential-Neuts:85.2 %, Lymph:11.4 %, Mono:2.6 %, Eos:0.3 %,
    Lactic Acid:1.5 mmol/L, Albumin:2.2 g/dL, LDH:399 IU/L,
    Ca++:7.3 mg/dL, Mg++:2.5 mg/dL, PO4:5.1 mg/dL
   Microbiology:
   -Catheter tip: no significant growth
   -peritoneal fluid: gram negative rods
   -bile: budding yeast
   -blood: NGTD
   LIVER U/S:
   1. Patent hepatic vasculature.
   2. 2.5 x 2.3 x 3.0 cm heterogeneous lesion within the left lobe of the
   liver,
   incompletely characterized, recommend contrast-enhanced multiphasic CT
   or MRI
   for further delineation.
   3. Known midline collection with drainage tube, partially imaged, as
   more
   fully characterized on concurrent CT examination.
   4. Coarsened echotexture of the liver, compatible with known cirrhosis.
   CT ABDOMEN:
   1. Contrast is tracking from bowel loops to the anterior abdominal wall
   in
   the lower right lower quadrant area. The findings are concerning for
   enterocutaneous fistula.
   2. Status post multiple upper GI surgeries including Roux-en-Y
   gastrojejunostomy . No obstruction or leak is noted.
   3. The previously noted fluid collection within the anterior abdominal
   wall
   has significantly improved.
   4. 4.5 cm focus of hyperdense fluid collection adjacent to the
   acetabulum on
   the left side which may be related to the left total hip replacement
   and
   protrusio acetabulum.
   CT HEAD: No acute intracranial process.
   Assessment and Plan
   74 y.o. male s/p multiple surgical interventions at an OSH now being
   transferred to [**Hospital1 5**] with concern for infected mesh, infected hematoma,
   and respiratory failure.
   # Fever: Likely abdominal source given Klebsiella, Enterococcus from a
   hematoma at his surgical wound site.  Concern for infected mesh +/-
   hematoma.
   - Trend temp curve, WBC
   - Send blood cultures, urine culture, sputum culture, biliary cx, 3 JPs
   cx
   - f/u culture data from all drain sites
   - Continue GNB coverage with IV Abx, Vanc and Zosyn
   - Micafungin for yeast
   - Surgery team consult (Dr. [**Last Name (STitle) **]; f/u any recommendations (will
   discuss cholangigram, feeding)
   - ID consult in AM
   - Resite lines (obtain peripherals, pulled PICC)
   - TTE today for ? endocarditis
   .
   # Hypernatremia:
   - On D5W at 100 cc/hr (may need increased rate if slow to correct)
   - Q6H Na levels
   .
   # Nutrition:
   - Ordered for TPN but not currently receiving as no dedicated line
   - Optimal would be enteral feeding
 will discuss further with surgery
   and IR re: placement of G-J tube or line through duodenal drain
   .
   # Head Bobbing: ? seizure activity.  Started yesterday per daughter. [**Name (NI) **]
   history of seizures in the past, though decreased rhythmic activity
   over night.
   - EEG
   - head CT
   .
   # Elevated LFTs: possibly due to hypoperfusion vs. hepatitis C
   infection
   - continue to trend
   .
   # ARF: Reached peak of 1.9 from baseline of 1.0. Likely prerenal given
   elevated sodium
   - patient received fluid bolus with 1L NS and had creatinine drop to
   1.4 and sodium to 145.
   - continue IVF boluses as needed.
   .
   # Constipation: stool seen on OSH CT scan, no BM in several days
   - repeat erythromycin, protonix, reglan as CT scan did not show
   evidence of obstruction
   - ? bowel regimen
   .
   # Respiratory failure: Trached, on vent; patient tachypneic overnight
   with RR 30s.  ABG with primary respiratory alkalosis.
   - continue on volume assist control.
   .
   # CAD: on b-blocker, statin, aspirin at home, not continued at OSH
   - continue to hold pending acute infection
   .
   # Aortic regurgitation:
   - Monitor volume status and hemodynamics
   .
   # FEN: No IVF, replete electrolytes, TPN when has access
   # Prophylaxis: Subcutaneous heparin
   # Access: PIV x 2
   # Communication: daughter [**Name (NI) 532**] [**Known lastname 12477**] is HCP [**Telephone/Fax (1) 12482**].
   # Code:  Full per HCP daughter
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2123-5-13**] 08:53 PM
   18 Gauge - [**2123-5-13**] 08:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2123-05-15 10:06:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: polymicrobial sepsis presumed secondary to
   intra-abdominal source
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   -cont fever 100.9
   -mult + peritoneal fluid cx
   -ID & Surgery consults
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2123-5-14**] 08:37 PM
   Micafungin - [**2123-5-15**] 05:38 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-5-15**] 05:38 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2123-5-15**] 04:38 AM
   Pantoprazole (Protonix) - [**2123-5-15**] 08:10 AM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-5-15**] 09:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.9
C (100.3
   HR: 83 (83 - 103) bpm
   BP: 148/80(97) {141/71(88) - 168/94(108)} mmHg
   RR: 13 (13 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,000 mL
                                                                    421 mL
   PO:
             TF:
   IVF:
                                                                  1,000 mL
                                                                    421 mL
   Blood products:
   Total out:
                                                                  3,126 mL
                                                                  1,395 mL
   Urine:
                                                                  2,631 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
                                                                    495 mL
                                                                    175 mL
   Balance:
                                                                 -2,126 mL
                                                                   -974 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 976 (486 - 976) mL
   PS : 15 cmH2O
   RR (Set): 24
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.52/24/176/19/0
   Ve: 7.6 L/min
   PaO2 / FiO2: 440
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: No spontaneous movement, Tone: Not
   assessed
   Labs / Radiology
   9.4 g/dL
   317 K/uL
   115 mg/dL
   1.6 mg/dL
   19 mEq/L
   3.5 mEq/L
   84 mg/dL
   119 mEq/L
   153 mEq/L
   28.1 %
   11.8 K/uL
        [image002.jpg]
                             [**2123-5-13**]  05:27 PM
                             [**2123-5-14**]  03:26 AM
                             [**2123-5-14**]  03:32 AM
                             [**2123-5-14**]  02:03 PM
                             [**2123-5-14**]  04:04 PM
                             [**2123-5-14**]  08:41 PM
                             [**2123-5-15**]  04:40 AM
   WBC
   12.8
   11.7
   11.2
   11.8
   Hct
   27.6
   28.1
   28.8
   28.8
   28.1
   Plt
   [**Telephone/Fax (3) 12520**]17
   Cr
   1.7
   1.4
   2.0
   1.6
   TCO2
   24
   20
   Glucose
   95
   125
   121
   115
   Other labs: PT / PTT / INR:16.2/27.8/1.4, ALT / AST:585/416, Alk Phos /
   T Bili:232/12.1, Amylase / Lipase:/21, Differential-Neuts:85.2 %,
   Lymph:11.4 %, Mono:2.6 %, Eos:0.3 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:399 IU/L, Ca++:7.3 mg/dL, Mg++:2.5 mg/dL, PO4:5.1
   mg/dL
   Assessment and Plan
 Polymicrobial sepsis
   -presumed abdomenal source given cx data
   -gut anatomy / drain placement not entirely clear based on available
   records
   -optimally requires further imaging to assess for abscess/collection,
   drain placement, anatomy.  MRI optimal
 however question of hip
   replacement material and contrast allergy needs to be addressed first.
 RESPIRATORY FAILURE, ACUTE
   -last abg yesterday
 resp alkalosis
   -repeat abg today
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -etiology not clear
   -EEG underway to r/o NCSE
 WOUND INFECTION
   -surgery following
Hypernatremia
Nutrition
   -surgery recommends elucidating tube/drain location to establish
   optimal route to feed via gut
   -currently on TPN
LFTs obstructive picture
   Remainder of plan as outlined in resident note above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2123-5-13**] 08:53 PM
   18 Gauge - [**2123-5-13**] 08:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Patient is critically ill.  Time spent on care
 50 minutes
   Disposition : ICU
   Total time spent:

2123-05-16 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EEG - At [**2123-5-15**] 08:47 AM
   conductive plastic leads--ok for MRI
 URINE CULTURE - At [**2123-5-15**] 10:53 AM
 BLOOD CULTURED - At [**2123-5-15**] 12:00 PM
   Venipuncture
   - peritoneal fluid growing E.coli resistant to zosyn. ABX changed to
   meropenem per ID recs
   - per family = had cardiac arrest 13 years ago when got IV contrast for
   CT scan for testicular cancer w/up. At OSH got tube study w/ contrast
   with pre-medication without incident.
   - Spoke w/ radiology ([**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **]) and general surgery about T-tube
   cholangiogram and duodenal tube imaging. Given hx of dye reaction
   agreed to hold off until the week to perform. IR ([**Doctor First Name **]) willing to do
   feeding tube in distal gut, need order (platelets >50, INR < 1.5).
   - Sodium of 154, calculated Free H20 deficit 6.1L, correct over 24 hrs
   gives rate of 250cc/hr, patient corrected to sodium of 143
   - episode of melana o/n, HCT stable at 28, active T+S, has 16+18 PIV
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2123-5-14**] 08:37 PM
   Piperacillin/Tazobactam (Zosyn) - [**2123-5-15**] 02:24 PM
   Meropenem - [**2123-5-16**] 01:00 AM
   Micafungin - [**2123-5-16**] 06:38 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-5-15**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2123-5-16**] 04:06 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to obtain
   Flowsheet Data as of  [**2123-5-16**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 38
C (100.4
   Tcurrent: 37.2
C (98.9
   HR: 79 (77 - 93) bpm
   BP: 150/77(94) {122/69(86) - 166/95(108)} mmHg
   RR: 16 (13 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,860 mL
                                                                  1,313 mL
   PO:
             TF:
   IVF:
                                                                  3,860 mL
                                                                  1,313 mL
   Blood products:
   Total out:
                                                                  3,518 mL
                                                                  1,510 mL
   Urine:
                                                                  2,648 mL
                                                                  1,170 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
                                                                    470 mL
                                                                    340 mL
   Balance:
                                                                    342 mL
                                                                   -197 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 976 (976 - 976) mL
   PS : 15 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.51/24/186/19/-1
   Ve: 8.9 L/min
   PaO2 / FiO2: 465
   Physical Examination
   General: ill-appearing man, unresponsive with eyes open and head
   bobbing
   HEENT: Sclera anicteric, MMM, NGT in place
   Neck: supple, JVP not elevated, no LAD, trach collar in place
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, III/VI holosystolic murmur
   LUSB, rubs, gallops
   Abdomen:  soft, multiple drains in place including: colostomy, biliary
   drain, 3 JP drains, GJ tube
   GU: foley in place
   Ext: L foot heel ulcer, wrapped
   Labs / Radiology
   288 K/uL
   9.2 g/dL
   113 mg/dL
   1.6 mg/dL
   19 mEq/L
   3.4 mEq/L
   64 mg/dL
   115 mEq/L
   148 mEq/L
   27.2 %
   10.9 K/uL
        [image002.jpg]
                             [**2123-5-14**]  03:26 AM
                             [**2123-5-14**]  03:32 AM
                             [**2123-5-14**]  02:03 PM
                             [**2123-5-14**]  04:04 PM
                             [**2123-5-14**]  08:41 PM
                             [**2123-5-15**]  04:40 AM
                             [**2123-5-15**]  05:25 PM
                             [**2123-5-15**]  06:44 PM
                             [**2123-5-16**]  01:18 AM
                             [**2123-5-16**]  04:13 AM
   WBC
   11.7
   11.2
   11.8
   10.9
   Hct
   28.1
   28.8
   28.8
   28.1
   28.0
   28.6
   27.2
   Plt
   [**Telephone/Fax (3) 12534**]88
   Cr
   1.4
   2.0
   1.6
   1.6
   TCO2
   24
   20
   20
   Glucose
   125
   121
   115
   113
   Other labs: PT / PTT / INR:16.1/26.9/1.4, ALT / AST:565/309, Alk Phos /
   T Bili:276/10.5, Amylase / Lipase:/21, Differential-Neuts:85.2 %,
   Lymph:11.4 %, Mono:2.6 %, Eos:0.3 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:418 IU/L, Ca++:6.9 mg/dL, Mg++:2.4 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   74 y.o. male s/p multiple surgical interventions at an OSH now being
   transferred to [**Hospital1 5**] with concern for infected mesh, infected hematoma,
   and respiratory failure.
   # Fever: Likely abdominal source given Klebsiella, Enterococcus from a
   hematoma at his surgical wound site.  Concern for infected mesh +/-
   hematoma.
   - Trend temp curve, WBC
   - f/u blood cultures, urine culture, sputum culture, biliary cx, 3 JPs
   cx
   - f/u culture data from all drain sites
   - Continue GNB coverage with IV Abx, Vanc and meropenem
   - Micafungin for yeast
   - Surgery team consult (Dr. [**Last Name (STitle) **]; f/u any recommendations (will
   discuss cholangigram, feeding)
   - f/u ID consult recs
   - Resite lines (obtain peripherals, pulled PICC)
   .
   # Hypernatremia:
   - On D5W at 100 cc/hr; corrected rapidly to 143 and then discontinued
   D5W.  Repeat 148.  Will restart D5W and monitor closely.
   - continue Q6H Na levels
   .
   # Nutrition: KUB today showing minimal gas throughout the small and
   large bowel.
   - Ordered for TPN but not currently receiving as no dedicated line
   - Optimal would be enteral feeding
 IR may be able to place distal
   feeding tube, likely beyond possible enterocutaneous fistula.
   .
   # Head Bobbing: ? seizure activity.  Started yesterday per daughter. [**Name (NI) **]
   history of seizures in the past, though decreased rhythmic activity
   over night.
   - f/u EEG
   .
   # Elevated LFTs: possibly due to hypoperfusion vs. hepatitis C
   infection
   - continue to trend
   .
   # ARF: Reached peak of 1.9 from baseline of 1.0. Likely prerenal given
   elevated sodium
   - patient received fluid bolus with 1L NS and had creatinine drop to
   1.4 and sodium to 145.  Now stable at 1.6.
   - continue IVF boluses as needed and continue to monitor UOP and renal
   function.
   .
   # Constipation/GIB: stool seen on OSH CT scan, now having melena
   - GI and surgery both aware of new melena.
   - likely no intervention at this time, trend HCT q 8 for now and then
   space to [**Hospital1 **].
   .
   # Respiratory failure: Trached, on vent; patient tachypneic overnight
   with RR 30s.  ABG with primary respiratory alkalosis.
   - continue on volume assist control.
   .
   # CAD: on b-blocker, statin, aspirin at home, not continued at OSH
   - continue to hold pending acute infection
   .
   # Aortic regurgitation:
   - Monitor volume status and hemodynamics
   .
   # FEN: No IVF, replete electrolytes, TPN when has access
   # Prophylaxis: Subcutaneous heparin
   # Access: PIV x 2
   # Communication: daughter [**Name (NI) 532**] [**Known lastname 12477**] is HCP [**Telephone/Fax (1) 12482**].
   # Code:  Full per HCP daughter
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2123-5-13**] 08:53 PM
   18 Gauge - [**2123-5-13**] 08:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   Chief Complaint: polymicrobial sepsis presumed secondary to
   intra-abdominal source
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EEG - At [**2123-5-15**] 08:47 AM
   conductive plastic leads--ok for MRI
 URINE CULTURE - At [**2123-5-15**] 10:53 AM
 BLOOD CULTURED - At [**2123-5-15**] 12:00 PM
   venipuncture
   -2 episodes of melana overnight, once this morning
   History obtained from Medical records
   Patient unable to provide history: Sedated, intubated
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2123-5-14**] 08:37 PM
   Piperacillin/Tazobactam (Zosyn) - [**2123-5-15**] 02:24 PM
   Micafungin - [**2123-5-16**] 06:38 AM
   Meropenem - [**2123-5-16**] 08:10 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2123-5-16**] 04:06 AM
   Pantoprazole (Protonix) - [**2123-5-16**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-5-16**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 38
C (100.4
   Tcurrent: 37.3
C (99.2
   HR: 71 (71 - 93) bpm
   BP: 140/70(87) {122/68(86) - 166/95(108)} mmHg
   RR: 9 (9 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,860 mL
                                                                  2,872 mL
   PO:
             TF:
   IVF:
                                                                  3,860 mL
                                                                  2,872 mL
   Blood products:
   Total out:
                                                                  3,518 mL
                                                                  2,330 mL
   Urine:
                                                                  2,648 mL
                                                                  1,810 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
                                                                    470 mL
                                                                    520 mL
   Balance:
                                                                    342 mL
                                                                    542 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP
   PS : 15 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   SpO2: 100%
   ABG: 7.51/24/186/19/-1
   Ve: 11.6 L/min
   PaO2 / FiO2: 465
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Non -purposeful, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   288 K/uL
   113 mg/dL
   1.6 mg/dL
   19 mEq/L
   3.4 mEq/L
   64 mg/dL
   115 mEq/L
   148 mEq/L
   27.2 %
   10.9 K/uL
        [image002.jpg]
                             [**2123-5-14**]  03:26 AM
                             [**2123-5-14**]  03:32 AM
                             [**2123-5-14**]  02:03 PM
                             [**2123-5-14**]  04:04 PM
                             [**2123-5-14**]  08:41 PM
                             [**2123-5-15**]  04:40 AM
                             [**2123-5-15**]  05:25 PM
                             [**2123-5-15**]  06:44 PM
                             [**2123-5-16**]  01:18 AM
                             [**2123-5-16**]  04:13 AM
   WBC
   11.7
   11.2
   11.8
   10.9
   Hct
   28.1
   28.8
   28.8
   28.1
   28.0
   28.6
   27.2
   Plt
   [**Telephone/Fax (3) 12534**]88
   Cr
   1.4
   2.0
   1.6
   1.6
   TCO2
   24
   20
   20
   Glucose
   125
   121
   115
   113
   Other labs: PT / PTT / INR:16.1/26.9/1.4, ALT / AST:565/309, Alk Phos /
   T Bili:276/10.5, Amylase / Lipase:/21, Differential-Neuts:85.2 %,
   Lymph:11.4 %, Mono:2.6 %, Eos:0.3 %, Lactic Acid:1.5 mmol/L,
   Albumin:2.2 g/dL, LDH:418 IU/L, Ca++:6.9 mg/dL, Mg++:2.4 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
 Polymicrobial sepsis
   -presumed abdomenal source given cx data
   -gut anatomy / drain placement not entirely clear based on available
   records
   -optimally requires further imaging to assess for abscess/collection,
   drain placement, anatomy.  MRI optimal
 however hip replacement not
   MRI compatable per report
 RESPIRATORY FAILURE, ACUTE
   -remains resp alkalosis - etiology unclear - doesn't appear anxious or
   in discomfort.  possibly related to cirrhosis/liver disease
   -repeat abg today
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   -etiology not clear
   -EEG underway to r/o NCSE
   -Awake today but not following commands
 WOUND INFECTION
   -surgery following
 Liver mass noted on US
   -check AFP
   -further imaging to evaluate.  Concerning  for hepatoma given hx HCV.
   Appears nodules noted on previous imaging - now enlarged on present
   study.
Hypernatremia
Nutrition
   -surgery recommends elucidating tube/drain location to establish
   optimal route to feed via gut. CT to evaluate positioning.
   -currently on TPN
LFTs obstructive picture
    -Tbili, coags stable
Glycemic control
   -
   Remainder of plan as outlined in resident note above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2123-5-13**] 08:53 PM
   18 Gauge - [**2123-5-13**] 08:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status:
   Disposition :
   Total time spent: 40 minutes
   Patient is critically ill

2123-05-17 06:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2123-5-16**] 02:00 PM
   - ID = cont vanc, meropenem, micafungin. Dose vanc for trough <15,
   check CMV VL given multiple transfusions
   - C. diff + --> started on metronidazole
   - PICC line placed.
   - continued on D5W for hypernatremia.
   - two maroon stools overnight
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-5-15**] 02:24 PM
   Vancomycin - [**2123-5-16**] 08:18 PM
   Meropenem - [**2123-5-17**] 12:31 AM
   Metronidazole - [**2123-5-17**] 02:15 AM
   Micafungin - [**2123-5-17**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-5-16**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2123-5-17**] 04:05 AM
   Other medications:
   Changes to medical and family history:
   Unchanged
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2123-5-17**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.8
   HR: 87 (67 - 87) bpm
   BP: 151/75(94) {136/68(86) - 158/89(105)} mmHg
   RR: 24 (9 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,352 mL
                                                                    623 mL
   PO:
             TF:
   IVF:
                                                                  5,352 mL
                                                                    623 mL
   Blood products:
   Total out:
                                                                  4,370 mL
                                                                  1,520 mL
   Urine:
                                                                  3,260 mL
                                                                  1,060 mL
   NG:
                                                                     60 mL
                                                                     40 mL
   Stool:
   Drains:
                                                                  1,050 mL
                                                                    420 mL
   Balance:
                                                                    982 mL
                                                                   -897 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   PS : 15 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   SpO2: 100%
   ABG: ///18/
   Ve: 17.5 L/min
   Physical Examination
   General: Pt responds to painful stimuli. Does not open eyes to voice.
   HEENT: Sclera anicteric, MMM, NGT in place
   Neck: supple, JVP not elevated, no LAD, trach collar in place
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, III/VI holosystolic murmur
   LUSB, rubs, gallops
   Abdomen:  soft, multiple drains in place including: colostomy, biliary
   drain, 3 JP drains, GJ tube
   GU: foley in place
   Ext: L foot heel ulcer, wrapped. Trace pitting edema LE bilaterally
   Labs / Radiology
   276 K/uL
   8.5 g/dL
   95 mg/dL
   1.1 mg/dL
   18 mEq/L
   3.9 mEq/L
   46 mg/dL
   116 mEq/L
   145 mEq/L
   25.8 %
   10.4 K/uL
        [image002.jpg]
                             [**2123-5-14**]  04:04 PM
                             [**2123-5-14**]  08:41 PM
                             [**2123-5-15**]  04:40 AM
                             [**2123-5-15**]  05:25 PM
                             [**2123-5-15**]  06:44 PM
                             [**2123-5-16**]  01:18 AM
                             [**2123-5-16**]  04:13 AM
                             [**2123-5-16**]  11:15 AM
                             [**2123-5-16**]  06:30 PM
                             [**2123-5-17**]  01:55 AM
   WBC
   11.8
   10.9
   10.4
   Hct
   28.8
   28.1
   28.0
   28.6
   27.2
   27.3
   25.8
   25.8
   Plt
   [**Telephone/Fax (3) 12560**]
   Cr
   1.6
   1.6
   1.1
   TCO2
   20
   20
   Glucose
   115
   113
   95
   Other labs: PT / PTT / INR:16.3/32.3/1.4, ALT / AST:565/309, Alk Phos /
   T Bili:276/10.5, Amylase / Lipase:/21, Differential-Neuts:85.2 %,
   Lymph:11.4 %, Mono:2.6 %, Eos:0.3 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.2 g/dL, LDH:418 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   74 y.o. male s/p multiple surgical interventions at an OSH now being
   transferred to [**Hospital1 5**] with concern for infected mesh, infected hematoma,
   and respiratory failure.
   # Fever:  Most likely intra-abdominal infection with gram negative rods
   (E. Coli, Klebsiella) growing in peritoneal fluid.  Concern for
   surgical site infection, infected mesh, hematoma.  Patient now afebrile
   for > 24 hours.  Also found to be c. difficile positive.
   - trend fever curve
   - f/u blood culture
   - continue meropenem, vancomycin redose for trough <15
   - continue micafungin for yeast
    - pt underwent line holiday, now with PICC line in place
   - f/u ID recs
   - f/u stool studies
   - check CMV VL per ID rec given multiple blood transfusions
   - plan for T tube cholangiogram given elevated LFT; patient will need
   to be pre-medicated with solumedrol/Benadryl d/t previous anaphylactic
   reaction (reportedly VF arrest 13 years ago)
   .
   # Hypernatremia:
   - On D5W at 250 cc/hr; corrected to 145.  Will continue D5W for a
   liter.
   - continue Q6H Na levels
   .
   #Melena:  Patient with 2 episodes of melena overnight, remained
   hemodynamically stable with stable HCT.
   - monitor HCT [**Hospital1 **]
   - transfuse for HCT <25 or active bleeding
   - f/u GI recs
 no plan to scope at this time
   .
   #Liver mass:
   - AFP normal
   - consider further imaging to further characterize, though patient
   cannot have MRI due to L THR that is not compatible with MRI.
   # Nutrition: KUB yesterday showing minimal gas throughout the small and
   large bowel.
   - Ordered for TPN but not currently receiving as no dedicated line
   - Optimal would be enteral feeding
 will need to coordinate with
   either GI or IR to place distal feeding tube beyond EC fistula
   .
   # Respiratory failure: Trached, on vent; patient with respiratory rate
   20s.  ABG with primary respiratory alkalosis.
   - continue on volume assist control.
   .
   # Head Bobbing: ? seizure activity.  Started on day of admission per
   daughter. [**Name (NI) **] history of seizures in the past, though decreased rhythmic
   activity overnight on HD 1.  No further head bobbing or seizure like
   activity.
   - f/u EEG read
   .
   # Elevated LFTs: possibly due to hypoperfusion vs. hepatitis C
   infection
   - continue to trend
   - T tube cholangiogram to further evaluate
   .
   # ARF: Reached peak of 1.9 from baseline of 1.0. Likely prerenal given
   elevated sodium.  After NS fluid bolus and 2 liters of D5W for
   hypernatremia, creatinine improved to 1.1.
   - patient received fluid bolus with 1L NS and had creatinine drop to
   1.4 and sodium to 145.  Now stable at 1.6.
   - continue IVF boluses as needed and continue to monitor UOP and renal
   function.
   .
   # Constipation/GIB: stool seen on OSH CT scan, now having melena
   - GI and surgery both aware of new melena.
   - likely no intervention at this time, trend HCT q 8 for now and then
   space to [**Hospital1 **].
   .
   # CAD: on b-blocker, statin, aspirin at home, not continued at OSH
   - continue to hold pending acute infection
   .
   # Aortic regurgitation:
   - Monitor volume status and hemodynamics
   .
   Hyperglycemia:  likely due to D5W for management of hypernatremia
   - insulin sliding scale
   .
   # FEN: No IVF, replete electrolytes, picc line,  TPN when has access
   # Prophylaxis: Subcutaneous heparin
   # Access: PIV x 2
   # Communication: daughter [**Name (NI) 532**] [**Known lastname 12477**] is HCP [**Telephone/Fax (1) 12482**].
   # Code:  Full per HCP daughter
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2123-5-13**] 08:53 PM
   PICC Line - [**2123-5-16**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2123-05-17 10:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 yo man who had ERCP in [**State 503**] - laceration of gastric artery.  had
   complicated surgery.  Recurrent bowel infections - JPs with
   enterococcal, staph epi, yeast.  Had trach.  Transferred here on [**5-10**].
   Has had E. coli and yeast from JP drains.  Also found to have HCV
   cirrhosis, ?HCC with liver lesion.  PIC line places yesterday.  C diff
   pos:  started on flagyl.  on D5W for hypernatremia.  Two maroon stools
   overnight.
   24 Hour Events:
 PICC LINE - START [**2123-5-16**] 02:00 PM
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-5-15**] 02:24 PM
   Vancomycin - [**2123-5-16**] 08:18 PM
   Metronidazole - [**2123-5-17**] 02:15 AM
   Micafungin - [**2123-5-17**] 06:00 AM
   Meropenem - [**2123-5-17**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2123-5-17**] 04:05 AM
   Pantoprazole (Protonix) - [**2123-5-17**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-5-17**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (98.9
   HR: 76 (67 - 87) bpm
   BP: 140/81(95) {136/70(86) - 158/89(105)} mmHg
   RR: 29 (9 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,352 mL
                                                                  1,566 mL
   PO:
             TF:
   IVF:
                                                                  5,352 mL
                                                                  1,566 mL
   Blood products:
   Total out:
                                                                  4,370 mL
                                                                  1,860 mL
   Urine:
                                                                  3,260 mL
                                                                  1,400 mL
   NG:
                                                                     60 mL
                                                                     40 mL
   Stool:
   Drains:
                                                                  1,050 mL
                                                                    420 mL
   Balance:
                                                                    982 mL
                                                                   -294 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   SpO2: 100%
   ABG: ///18/
   Ve: 17.5 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, moves all four
   extremities
   Labs / Radiology
   8.5 g/dL
   276 K/uL
   95 mg/dL
   1.1 mg/dL
   18 mEq/L
   3.9 mEq/L
   46 mg/dL
   116 mEq/L
   145 mEq/L
   25.8 %
   10.4 K/uL
        [image002.jpg]
                             [**2123-5-14**]  04:04 PM
                             [**2123-5-14**]  08:41 PM
                             [**2123-5-15**]  04:40 AM
                             [**2123-5-15**]  05:25 PM
                             [**2123-5-15**]  06:44 PM
                             [**2123-5-16**]  01:18 AM
                             [**2123-5-16**]  04:13 AM
                             [**2123-5-16**]  11:15 AM
                             [**2123-5-16**]  06:30 PM
                             [**2123-5-17**]  01:55 AM
   WBC
   11.8
   10.9
   10.4
   Hct
   28.8
   28.1
   28.0
   28.6
   27.2
   27.3
   25.8
   25.8
   Plt
   [**Telephone/Fax (3) 12560**]
   Cr
   1.6
   1.6
   1.1
   TCO2
   20
   20
   Glucose
   115
   113
   95
   Other labs: PT / PTT / INR:16.3/32.3/1.4, ALT / AST:450/197, Alk Phos /
   T Bili:254/8.6, Amylase / Lipase:/21, Differential-Neuts:85.2 %,
   Lymph:11.4 %, Mono:2.6 %, Eos:0.3 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.2 g/dL, LDH:290 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   Respiratory failure:  Doing well on Trach collar.  Continue TC as
   tolerated.
   Intraabdominal infection.  Vanco/meropenem.  Micofungin for yeast.
   Melena:  3 days of maroon stools.  Hct stable.  No intervention
   planned.
   Liver mass? - AFP is normal.
   nutrition:  can restart TPN.  Discuss with IR to get enteral feeding
   tube.
   head bobbing:  getting EEG to R/o seizures
   Creatinine improves with IVF.
   hypernatremia: improved
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2123-5-13**] 08:53 PM
   PICC Line - [**2123-5-16**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2123-05-18 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2123-5-17**]
   - OSH culture data showing yeast in abdominal fluid from [**5-6**] and [**5-7**]:
   cultures growing C. albicans (no sensitivities)
   - Nutrition recs: check chem 10 qd, check TG (513), Goal TPN provide
   Trig and BS WNL will be 1.8L(320g dextrose/95g protein/45g fat) to
   provide 1918kcal; tube feed once small bowel feeding tube if placed,
   start with Vivonex TEN at 10ml/hr, monitor tolerance; continue SSI
   - ID recs: continue vanc/[**Last Name (un) **]; continue IV flagyl for C. Diff; continue
   micafungin pending final yeast cultures; follow-up CMV VL; repeat Bl cx
   if spikes
   - Surgery recs: plan for G-tube duodenostomy with small bowel
   follow-through study today to confirm position of T-tube and rule out
   leaks/obstruction
   - GI recs: may need scope for GIB but will hold off for now
   - Went for G-tube/duodenal tube barium study as above showing leak in
   duodenal tube, no barium processing through stomach. Then vomited up
   barium, had blood in JP drain, and melena at 9pm. F/u KUB ordered (no
   read yet but looks like majority of barium in stomach with little
   progression after ~4 hours). Surgery was consulted over these findings
   but nothing to do at this time. Hct stable at 28.
   - Hypernatremia: improved to 142 by PM labs.
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-5-15**] 02:24 PM
   Micafungin - [**2123-5-17**] 06:00 AM
   Vancomycin - [**2123-5-17**] 08:52 PM
   Meropenem - [**2123-5-18**] 12:17 AM
   Metronidazole - [**2123-5-18**] 03:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-5-17**] 08:52 PM
   Heparin Sodium (Prophylaxis) - [**2123-5-17**] 08:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-5-18**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.6
C (97.9
   HR: 79 (68 - 85) bpm
   BP: 147/75(94) {136/73(90) - 162/87(104)} mmHg
   RR: 31 (20 - 43) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,336 mL
                                                                    659 mL
   PO:
             TF:
   IVF:
                                                                  3,206 mL
                                                                    337 mL
   Blood products:
   Total out:
                                                                  4,040 mL
                                                                  1,985 mL
   Urine:
                                                                  3,530 mL
                                                                  1,310 mL
   NG:
                                                                     40 mL
   Stool:
   Drains:
                                                                    470 mL
                                                                    675 mL
   Balance:
                                                                   -704 mL
                                                                 -1,325 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///17/
   Physical Examination
   General: Pt responds to painful stimuli. Does not open eyes to voice.
   HEENT: Sclera anicteric, MMM, NGT in place
   Neck: supple, JVP not elevated, no LAD, trach collar in place
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, III/VI holosystolic murmur
   LUSB, rubs, gallops
   Abdomen:  soft, multiple drains in place including: colostomy, biliary
   drain, 3 JP drains, GJ tube
   GU: foley in place
   Ext: L foot heel ulcer, wrapped. Trace pitting edema LE bilaterally
   Labs / Radiology
   338 K/uL
   8.9 g/dL
   113 mg/dL
   1.0 mg/dL
   17 mEq/L
   3.9 mEq/L
   37 mg/dL
   113 mEq/L
   143 mEq/L
   27.1 %
   12.4 K/uL
        [image002.jpg]
                             [**2123-5-15**]  05:25 PM
                             [**2123-5-15**]  06:44 PM
                             [**2123-5-16**]  01:18 AM
                             [**2123-5-16**]  04:13 AM
                             [**2123-5-16**]  11:15 AM
                             [**2123-5-16**]  06:30 PM
                             [**2123-5-17**]  01:55 AM
                             [**2123-5-17**]  02:16 PM
                             [**2123-5-17**]  09:15 PM
                             [**2123-5-18**]  03:09 AM
   WBC
   10.9
   10.4
   12.4
   Hct
   28.0
   28.6
   27.2
   27.3
   25.8
   25.8
   27.2
   28.8
   27.1
   Plt
   288
   276
   338
   Cr
   1.6
   1.1
   1.1
   1.0
   TCO2
   20
   Glucose
   113
   95
   361
   113
   Other labs: PT / PTT / INR:15.8/28.3/1.4
   ALT / AST:347/134, Alk Phos / T Bili:253/8.5, Amylase / Lipase:/21,
   Differential-Neuts:85.2 %, Lymph:11.4 %, Mono:2.6 %, Eos:0.3 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.2 g/dL, LDH:277 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Micro:
-CMV: CMV Viral Load 5,620 copies/ml
-HCV VL: not detected
-Stool studies: Pending, C. diff positive
   Assessment and Plan
   74 y.o. male s/p multiple surgical interventions at an OSH now being
   transferred to [**Hospital1 5**] with concern for infected mesh, infected hematoma,
   and respiratory failure.
   # Fever:  Most likely intra-abdominal infection with gram negative rods
   (E. Coli, Klebsiella) growing in peritoneal fluid.  Concern for
   surgical site infection, infected mesh, hematoma.  Patient now afebrile
   for > 24 hours.  Also found to be c. difficile positive.
   - trend fever curve
   - f/u blood culture
   - continue meropenem, vancomycin redose for trough <15
   - continue micafungin for yeast
    - pt underwent line holiday, now with PICC line in place
   - f/u ID recs
   - f/u stool studies
   - f/u IR study from [**5-17**]
   # Respiratory failure: Trached, on vent; patient with respiratory rate
   20s.  ABG with primary respiratory alkalosis.
   - continue on volume assist control; tolerating trach collar
   .
   # Hypernatremia:
   - On D5W at 250 cc/hr; corrected to 145.  Will continue D5W for a
   liter.
   - continue Q6H Na levels
   .
   #Melena:  Patient with 2 episodes of melena overnight, remained
   hemodynamically stable with stable HCT.
   - monitor HCT [**Hospital1 **]
   - transfuse for HCT <25 or active bleeding
   - f/u GI recs
 no plan to scope at this time
   .
   #Liver mass:
   - AFP normal
   - consider further imaging to further characterize, though patient
   cannot have MRI due to L THR that is not compatible with MRI.
   .
   # Nutrition: KUB yesterday showing minimal gas throughout the small and
   large bowel.
   - Ordered for TPN but not currently receiving as no dedicated line
   - Optimal would be enteral feeding
 will need to coordinate with
   either GI or IR to place distal feeding tube beyond EC fistula
   - Nutrition consult for TPN recommendations pending enteral feeding
   tube placement.
   .
   # CMV +:
   -          f/u ID recs regarding suppressive therapy
   -          consider ophthalmology consult
   .
   # Head Bobbing: ? seizure activity.  Started on day of admission per
   daughter. [**Name (NI) **] history of seizures in the past, though decreased rhythmic
   activity overnight on HD 1.  No further head bobbing or seizure like
   activity.
   - f/u EEG read
   # Elevated LFTs: possibly due to hypoperfusion vs. hepatitis C
   infection
   - continue to trend
   - T tube cholangiogram to further evaluate
   # ARF: Reached peak of 1.9 from baseline of 1.0. Likely prerenal given
   elevated sodium.  After NS fluid bolus and 2 liters of D5W for
   hypernatremia, creatinine improved to 1.1.
   - continue IVF boluses as needed and continue to monitor UOP and renal
   function.
   .
   # CAD: on b-blocker, statin, aspirin at home, not continued at OSH
   - continue to hold pending acute infection
   .
   # Aortic regurgitation:
   - Monitor volume status and hemodynamics
   .
   Hyperglycemia:  likely due to D5W for management of hypernatremia
   - insulin sliding scale
   .
   # FEN: No IVF, replete electrolytes, picc line,  TPN when has access
   # Prophylaxis: Subcutaneous heparin
   # Access: PIV x 2
   # Communication: daughter [**Name (NI) 532**] [**Known lastname 12477**] is HCP [**Telephone/Fax (1) 12482**].
   # Code:  Full per HCP daughter
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   TPN without Lipids - [**2123-5-17**] 08:53 PM 41.[**Telephone/Fax (3) 499**] mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2123-5-13**] 08:53 PM
   PICC Line - [**2123-5-16**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2123-05-18 12:42:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, abdominal infection.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 yo man gastric artery laceration during ERCP, prolonged course with
   multiple OR trips.  Had barium studies yesterday - barium not passing
   through stomach.   duodenostomy tube with leak
   24 Hour Events:
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-5-15**] 02:24 PM
   Micafungin - [**2123-5-17**] 06:00 AM
   Vancomycin - [**2123-5-17**] 08:52 PM
   Meropenem - [**2123-5-18**] 08:00 AM
   Metronidazole - [**2123-5-18**] 10:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2123-5-17**] 08:52 PM
   Pantoprazole (Protonix) - [**2123-5-18**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria
   Integumentary (skin): No(t) Jaundice
   Flowsheet Data as of  [**2123-5-18**] 12:41 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.6
C (97.9
   HR: 82 (68 - 85) bpm
   BP: 134/68(85) {128/68(84) - 162/87(104)} mmHg
   RR: 33 (20 - 43) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,336 mL
                                                                  1,103 mL
   PO:
             TF:
   IVF:
                                                                  3,206 mL
                                                                    592 mL
   Blood products:
   Total out:
                                                                  4,040 mL
                                                                  2,865 mL
   Urine:
                                                                  3,530 mL
                                                                  2,070 mL
   NG:
                                                                     40 mL
   Stool:
   Drains:
                                                                    470 mL
                                                                    795 mL
   Balance:
                                                                   -704 mL
                                                                 -1,762 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///17/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   338 K/uL
   113 mg/dL
   1.0 mg/dL
   17 mEq/L
   3.9 mEq/L
   37 mg/dL
   113 mEq/L
   143 mEq/L
   27.1 %
   12.4 K/uL
        [image002.jpg]
                             [**2123-5-15**]  05:25 PM
                             [**2123-5-15**]  06:44 PM
                             [**2123-5-16**]  01:18 AM
                             [**2123-5-16**]  04:13 AM
                             [**2123-5-16**]  11:15 AM
                             [**2123-5-16**]  06:30 PM
                             [**2123-5-17**]  01:55 AM
                             [**2123-5-17**]  02:16 PM
                             [**2123-5-17**]  09:15 PM
                             [**2123-5-18**]  03:09 AM
   WBC
   10.9
   10.4
   12.4
   Hct
   28.0
   28.6
   27.2
   27.3
   25.8
   25.8
   27.2
   28.8
   27.1
   Plt
   288
   276
   338
   Cr
   1.6
   1.1
   1.1
   1.0
   TCO2
   20
   Glucose
   113
   95
   361
   113
   Other labs: PT / PTT / INR:15.8/28.3/1.4, ALT / AST:347/134, Alk Phos /
   T Bili:253/8.5, Amylase / Lipase:/21, Differential-Neuts:85.2 %,
   Lymph:11.4 %, Mono:2.6 %, Eos:0.3 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.2 g/dL, LDH:277 IU/L, Ca++:7.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.6
   mg/dL
   Fluid analysis / Other labs: CMV VL 5000 copies
   Assessment and Plan
   Abdominal sepsis/surgeries:  will follow up on final read of barium
   studies from yesterday and discuss with surgical team about next
   step.
   nutrition:  continue TPN for now.  stomach not emptying and possible
   duodenal leak.
   melena:  no further melena.
   CMV+: will discuss with ID about + viral load
   ?seizures:  follow up EEG.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2123-5-17**] 08:53 PM 41.[**Telephone/Fax (3) 499**] mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2123-5-13**] 08:53 PM
   PICC Line - [**2123-5-16**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2123-05-19 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Surgery: Plan to start tube feeds through the duodenostomy tube
   tomorrow. Follow output on drains to see where leakage.
   - ID: continue current ABX regimen, + CMV VL likely due to multiple
   transfusions. Recommend that if scoped by GI then can biopsy
   - GI: no plan to scope, signed off
   - Neurology: EEG did have one peroid of suspicious focal left temporal
   activity without clinical correlate, no alteration in consciousness.
   Caveat that this was poor quality given that recorded at end of 48 hour
   period.
   - Duodenostomy study:
   1. Percutaneous duodenostomy tube with small leakage seen around the
   catheter entrance into the duodenum, with tracking along the catheter
   and liver. No definite biliary leak of contrast that refluxed into the
   biliary system, though a small contained leak at the T tube entrance
   site to the CBD can not be excluded.
   2. Gastrojejunostomy was filled retrograde but unable to distend
   completely, a followup radiograph in 45- 60 minutes is recommended.
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Metronidazole - [**2123-5-18**] 06:00 PM
   Vancomycin - [**2123-5-18**] 09:37 PM
   Meropenem - [**2123-5-19**] 12:07 AM
   Micafungin - [**2123-5-19**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-5-18**] 08:47 PM
   Other medications:
   Changes to medical and family history:
   Unchanged
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unchanged
   Flowsheet Data as of  [**2123-5-19**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 90 (77 - 95) bpm
   BP: 141/77(92) {127/68(84) - 150/85(100)} mmHg
   RR: 38 (31 - 56) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,185 mL
                                                                    685 mL
   PO:
             TF:
   IVF:
                                                                  1,169 mL
                                                                    368 mL
   Blood products:
   Total out:
                                                                  4,655 mL
                                                                  1,275 mL
   Urine:
                                                                  3,330 mL
                                                                    810 mL
   NG:
                                                                    145 mL
                                                                    165 mL
   Stool:
   Drains:
                                                                  1,180 mL
                                                                    300 mL
   Balance:
                                                                 -2,470 mL
                                                                   -590 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: 7.46/26/140/17/-2
   PaO2 / FiO2: 400
   Physical Examination
   General: Alert and responsive.
   HEENT: Sclera anicteric, MMM, NGT in place
   Neck: supple, JVP not elevated, no LAD, trach collar in place
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, III/VI holosystolic murmur
   LUSB, rubs, gallops
   Abdomen:  soft, multiple drains in place including: colostomy, biliary
   drain, 3 JP drains, GJ tube. Duodenostomy tube and G tube continuing to
   drain white contrast material.
   GU: foley in place
   Ext: L foot heel ulcer, wrapped. Trace pitting edema LE bilaterally
   Labs / Radiology
   386 K/uL
   9.0 g/dL
   124 mg/dL
   0.9 mg/dL
   17 mEq/L
   4.0 mEq/L
   40 mg/dL
   117 mEq/L
   146 mEq/L
   27.4 %
   12.3 K/uL
        [image002.jpg]
                             [**2123-5-16**]  04:13 AM
                             [**2123-5-16**]  11:15 AM
                             [**2123-5-16**]  06:30 PM
                             [**2123-5-17**]  01:55 AM
                             [**2123-5-17**]  02:16 PM
                             [**2123-5-17**]  09:15 PM
                             [**2123-5-18**]  03:09 AM
                             [**2123-5-18**]  12:46 PM
                             [**2123-5-18**]  10:08 PM
                             [**2123-5-19**]  03:12 AM
   WBC
   10.9
   10.4
   12.4
   12.3
   Hct
   27.2
   27.3
   25.8
   25.8
   27.2
   28.8
   27.1
   27.7
   29
   27.4
   Plt
   288
   276
   338
   386
   Cr
   1.6
   1.1
   1.1
   1.0
   0.9
   TCO2
   19
   Glucose
   113
   95
   [**Telephone/Fax (3) 12612**]
   124
   Other labs: PT / PTT / INR:15.8/27.2/1.4, ALT / AST:269/110, Alk Phos /
   T Bili:270/7.6, Amylase / Lipase:/21, Differential-Neuts:85.2 %,
   Lymph:11.4 %, Mono:2.6 %, Eos:0.3 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.2 g/dL, LDH:277 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
   74 yo male s/p multiple surgical interventions at an OSH now being
   transferred to [**Hospital1 5**] with concern for infected mesh, infected hematoma,
   and respiratory failure.
   # Fever:  Most likely intra-abdominal infection with gram negative rods
   (E. Coli, Klebsiella) growing in peritoneal fluid.  Concern for
   surgical site infection, infected mesh, hematoma.  Patient now afebrile
   since [**2123-5-15**] at noon.  Also found to be c. difficile positive.
   - trend fever curve
   - f/u blood culture
   - continue meropenem, vancomycin; redose for trough <15
   - continue micafungin for yeast ; f/u on sensitivies here (at OSH,
   yeast was C. [**Hospital 12620**] hospital does not do sensitivities)
    - pt underwent line holiday, now with PICC line in place
   - f/u ID recs
   - continue flagyl for C. diff
   # Respiratory failure: Trached, was on vent; patient with respiratory
   rate 20s.  ABG with primary respiratory alkalosis. Has been
   transitioned to trach collar and doing well for several days.
   - continue to monitor respiratory status closely
   # Hypernatremia: Sodium slowly increasing to 146 this morning.
   - restart D5W @ 100cc/hr x 1 liter
   - check sodium [**Hospital1 **]
   .
   #Melena:  Patient with 2 episodes of melena overnight, remained
   hemodynamically stable with stable HCT.
   - monitor HCT [**Hospital1 **]
   - transfuse for HCT <25 or active bleeding
   - f/u GI recs
 no plan to scope at this time
   .
   #Liver mass:
   - AFP normal
   - consider further imaging to further characterize, though patient
   cannot have MRI due to L THR that is not compatible with MRI.
   .
   # Nutrition: KUB showing minimal gas throughout the small and large
   bowel, duodenostomy study with contrast that did not progress beyond
   the duodenum.  Drains in place still draining white contrast.
   - currently on TPN
   - Optimal would be enteral feeding
 will need to coordinate with
   either GI or IR to place distal feeding tube beyond EC fistula
   - Surgery recommending tube feeds via duodenostomy tube; will clarify
   with surgery as contrast has not progressed
   .
   # CMV +:
   - f/u ID recs regarding suppressive therapy
   - consider ophthalmology consult
   .
   # Head Bobbing: ? seizure activity.  Started on day of admission per
   daughter. [**Name (NI) **] history of seizures in the past, though decreased rhythmic
   activity overnight on HD 1.  No further head bobbing or seizure like
   activity.
   - f/u EEG read
   # Elevated LFTs: possibly due to hypoperfusion vs. hepatitis C
   infection. LFTs trending down.
   - continue to trend daily
   - f/u T tube cholangiogram final read
   # ARF: Reached peak of 1.9 from baseline of 1.0. Likely prerenal given
   elevated sodium.  After NS fluid bolus and 2 liters of D5W for
   hypernatremia, creatinine improved to 1.1.
   - continue IVF boluses as needed and continue to monitor UOP and renal
   function.
   .
   # CAD: on b-blocker, statin, aspirin at home, not continued at OSH
   .
   # Aortic regurgitation:
   - Monitor volume status and hemodynamics
   .
   # Hyperglycemia:  likely due to D5W for management of hypernatremia
   - insulin sliding scale
   .
   # FEN: No IVF, replete electrolytes, picc line,  TPN
   # Prophylaxis: pneumoboots for now
   # Access: PICC
   # Communication: daughter [**Name (NI) 532**] [**Known lastname 12477**] is HCP [**Telephone/Fax (1) 12482**].
   # Code:  Full per HCP daughter
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   TPN without Lipids - [**2123-5-18**] 08:48 PM 45.[**Telephone/Fax (5) 10248**] mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2123-5-13**] 08:53 PM
   PICC Line - [**2123-5-16**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2123-05-19 11:48:00 Physician Attending Progress Note
Chief Complaint: intraabdominal sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 yo with mutilple bowel surgeries and intrabdomina sepsis, following
   gastric artery laceration.  Surgery recommends starts TFs into
   dudodenal tube.
   24 Hour Events:
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2123-5-18**] 09:37 PM
   Micafungin - [**2123-5-19**] 06:00 AM
   Meropenem - [**2123-5-19**] 09:04 AM
   Metronidazole - [**2123-5-19**] 10:03 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-5-19**] 09:05 AM
   Other medications:
   chlorhexidine
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Genitourinary: Foley
   Integumentary (skin): No(t) Jaundice
   Heme / Lymph: Anemia
   Allergy / Immunology: No(t) Immunocompromised
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2123-5-19**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 88 (78 - 95) bpm
   BP: 147/75(92) {127/72(86) - 156/86(102)} mmHg
   RR: 37 (28 - 56) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,185 mL
                                                                  1,601 mL
   PO:
             TF:
   IVF:
                                                                  1,169 mL
                                                                  1,079 mL
   Blood products:
   Total out:
                                                                  4,655 mL
                                                                  2,065 mL
   Urine:
                                                                  3,330 mL
                                                                  1,570 mL
   NG:
                                                                    145 mL
                                                                    165 mL
   Stool:
   Drains:
                                                                  1,180 mL
                                                                    330 mL
   Balance:
                                                                 -2,470 mL
                                                                   -464 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: 7.46/26/140/17/-2
   PaO2 / FiO2: 400
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   386 K/uL
   124 mg/dL
   0.9 mg/dL
   17 mEq/L
   4.0 mEq/L
   40 mg/dL
   117 mEq/L
   146 mEq/L
   27.4 %
   12.3 K/uL
        [image002.jpg]
                             [**2123-5-16**]  04:13 AM
                             [**2123-5-16**]  11:15 AM
                             [**2123-5-16**]  06:30 PM
                             [**2123-5-17**]  01:55 AM
                             [**2123-5-17**]  02:16 PM
                             [**2123-5-17**]  09:15 PM
                             [**2123-5-18**]  03:09 AM
                             [**2123-5-18**]  12:46 PM
                             [**2123-5-18**]  10:08 PM
                             [**2123-5-19**]  03:12 AM
   WBC
   10.9
   10.4
   12.4
   12.3
   Hct
   27.2
   27.3
   25.8
   25.8
   27.2
   28.8
   27.1
   27.7
   29
   27.4
   Plt
   288
   276
   338
   386
   Cr
   1.6
   1.1
   1.1
   1.0
   0.9
   TCO2
   19
   Glucose
   113
   95
   [**Telephone/Fax (3) 12612**]
   124
   Other labs: PT / PTT / INR:15.8/27.2/1.4, ALT / AST:269/110, Alk Phos /
   T Bili:270/7.6, Amylase / Lipase:/21, Differential-Neuts:85.2 %,
   Lymph:11.4 %, Mono:2.6 %, Eos:0.3 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.2 g/dL, LDH:277 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 ALTERATION IN NUTRITION
 HYPERNATREMIA (HIGH SODIUM)
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 WOUND INFECTION
   Fevers:  could be due to C. diff.  Continue broad spectrum antibiotics.
   Liver mass:  AFB is normal
   nutrition:  Will discuss with surger and IR about placing a post
   duodenal tub versus just feeing through the current tube.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2123-5-18**] 08:48 PM 45.[**Telephone/Fax (5) 10248**] mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2123-5-13**] 08:53 PM
   PICC Line - [**2123-5-16**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2123-05-20 06:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -After discussion with surgery, patient will go to fluoroscopy for
   [**Last Name (un) 1446**]-intestinal tube placement and will start tube feeds after
   placement.
   -Fluoroscopy does not think they will be able to insert feeding tube
   due to marked angle of duodenum; need to speak to IR as their attending
   thought they could place tube.
   - Patient began to leak bilious/purulent material from proximal
   incision that is beginning to open.  Surgery evaluated and sent
   cultures.
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Micafungin - [**2123-5-19**] 06:00 AM
   Meropenem - [**2123-5-19**] 04:28 PM
   Vancomycin - [**2123-5-20**] 12:00 AM
   Metronidazole - [**2123-5-20**] 02:26 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-5-20**] 04:53 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-5-19**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Unchanged
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unchanged
   Flowsheet Data as of  [**2123-5-20**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.1
   HR: 89 (79 - 98) bpm
   BP: 147/79(94) {123/68(80) - 156/86(102)} mmHg
   RR: 35 (27 - 45) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,109 mL
                                                                    841 mL
   PO:
             TF:
   IVF:
                                                                  1,757 mL
                                                                    468 mL
   Blood products:
   Total out:
                                                                  3,710 mL
                                                                  1,070 mL
   Urine:
                                                                  2,680 mL
                                                                  1,020 mL
   NG:
                                                                    295 mL
   Stool:
   Drains:
                                                                    735 mL
                                                                     50 mL
   Balance:
                                                                   -601 mL
                                                                   -229 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   Neuro: alert, responsive, following commands.
   CV: regular rate and rhythm, no m/r/g
   Pulm: CTAB
   Abdomen: Open areas in midline incision with visible fascia underneath
   Extremities: Edema of extremities x 4, pneumoboots in place
   Labs / Radiology
   390 K/uL
   8.5 g/dL
   110 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.2 mEq/L
   40 mg/dL
   116 mEq/L
   145 mEq/L
   26.5 %
   14.2 K/uL
        [image002.jpg]
                             [**2123-5-17**]  01:55 AM
                             [**2123-5-17**]  02:16 PM
                             [**2123-5-17**]  09:15 PM
                             [**2123-5-18**]  03:09 AM
                             [**2123-5-18**]  12:46 PM
                             [**2123-5-18**]  10:08 PM
                             [**2123-5-19**]  03:12 AM
                             [**2123-5-19**]  03:09 PM
                             [**2123-5-19**]  04:44 PM
                             [**2123-5-20**]  04:18 AM
   WBC
   10.4
   12.4
   12.3
   14.2
   Hct
   25.8
   27.2
   28.8
   27.1
   27.7
   29
   27.4
   29.1
   26.5
   Plt
   [**Telephone/Fax (3) 12647**]90
   Cr
   1.1
   1.1
   1.0
   0.9
   0.9
   1.0
   TCO2
   19
   Glucose
   95
   [**Telephone/Fax (3) 12648**]24
   135
   110
   Other labs: PT / PTT / INR:15.7/28.5/1.4, ALT / AST:203/97, Alk Phos /
   T Bili:314/6.3, Amylase / Lipase:/21, Differential-Neuts:85.2 %,
   Lymph:11.4 %, Mono:2.6 %, Eos:0.3 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.2 g/dL, LDH:277 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.6
   mg/dL
   [**5-20**] abdomen incision swab: GS without PMN/organisms; cultures pending
   [**5-19**] Blood cx pending X2
   Assessment and Plan
   74 yo male s/p multiple surgical interventions at an OSH now being
   transferred to [**Hospital1 5**] with concern for infected mesh, infected hematoma,
   and respiratory failure.
   # Fever:  Most likely intra-abdominal infection with gram negative rods
   (E. Coli, Klebsiella) growing in peritoneal fluid.  Concern for
   surgical site infection, infected mesh, hematoma.  Patient now afebrile
   since [**2123-5-15**] at noon.  Also found to be c. difficile positive.
   - trend fever curve
   - f/u blood culture
   - continue meropenem, vancomycin; redose for trough <15
   - continue micafungin for yeast ; f/u on sensitivies here (at OSH,
   yeast was C. [**Hospital 12620**] hospital does not do sensitivities)
    - pt underwent line holiday, now with PICC line in place
   - f/u ID recs
   - continue flagyl for C. diff
   - F/U surgery recs re: abdominal incision openings
   # Respiratory failure: Trached, was on vent; patient with respiratory
   rate 20s.  ABG with primary respiratory alkalosis. Has been
   transitioned to trach collar and doing well for several days.
   - continue to monitor respiratory status closely
   # Incision Drainage
 surgical incision now with bilious/purulent
   drainage from proximal incision site s/p staple removal.
   - F/u Cx
   - f/u surgery recommendations
   # Hypernatremia: Sodium stable at 145
   - check sodium [**Hospital1 **]
   .
   #Melena:  Patient with 2 episodes of melena overnight, remained
   hemodynamically stable with downtrending HCT this morning.
   - monitor HCT [**Hospital1 **]
   - transfuse for HCT <25 or active bleeding
   - f/u GI recs
 no plan to scope at this time
   .
   #Liver mass:
   - AFP normal
   - consider further imaging to further characterize, though patient
   cannot have MRI due to L THR that is not compatible with MRI.
   .
   # Nutrition: KUB showing minimal gas throughout the small and large
   bowel, duodenostomy study with contrast that did not progress beyond
   the duodenum.  Drains in place still draining white contrast.
   - currently on TPN
   - Optimal would be enteral feeding
 will need to coordinate with
   either GI or IR to place distal feeding tube beyond EC fistula
   - Plan initially for fluoro guided [**Last Name (un) 1446**]-intestinal feeding tube; will
   need to coordinate today with IR for possible placement.
   .
   # CMV +:
   - f/u ID recs regarding suppressive therapy
   - consider ophthalmology consult
   .
   # Head Bobbing: ? seizure activity.  Started on day of admission per
   daughter. [**Name (NI) **] history of seizures in the past, though decreased rhythmic
   activity overnight on HD 1.  No further head bobbing or seizure like
   activity.
   - f/u EEG read (note: machine accidentally kicked by a family member
   near end of recording strip; this could possibly account for
   abnormality around that time)
   # Elevated LFTs: possibly due to hypoperfusion vs. hepatitis C
   infection. LFTs trending down.
   - continue to trend daily
   - f/u T tube cholangiogram final read
   # ? Cracked molar
 Will monitor for now as not loose; if becomes loose
   and concern for aspiration, will contact dental for extraction.
   # ARF: Reached peak of 1.9 from baseline of 1.0. Likely prerenal given
   elevated sodium.  After NS fluid bolus and 2 liters of D5W for
   hypernatremia, creatinine improved to 1.1.
   - continue IVF boluses as needed and continue to monitor UOP and renal
   function.
   .
   # CAD: on b-blocker, statin, aspirin at home, not continued at OSH
   .
   # Aortic regurgitation:
   - Monitor volume status and hemodynamics
   .
   # Hyperglycemia:  likely due to D5W for management of hypernatremia
   - insulin sliding scale
   .
   # FEN: No IVF, replete electrolytes, picc line,  TPN
   # Prophylaxis: pneumoboots for now
   # Access: PICC
   # Communication: daughter [**Name (NI) 532**] [**Known lastname 12477**] is HCP [**Telephone/Fax (1) 12482**].
   # Code:  Full per HCP daughter
   # Disposition: ICU pending clinical improvement
 discuss D/C to
   [**Hospital1 **] with CM
   ICU Care
   Nutrition:
   TPN without Lipids - [**2123-5-19**] 04:08 PM 56.[**Telephone/Fax (5) 12649**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2123-5-16**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2123-05-20 09:27:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 yo with abdominal sepsis, multiple surgeries.  abdominal wound began
   draining yesterday.
   24 Hour Events:
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Meropenem - [**2123-5-19**] 04:28 PM
   Vancomycin - [**2123-5-20**] 12:00 AM
   Metronidazole - [**2123-5-20**] 02:26 AM
   Piperacillin/Tazobactam (Zosyn) - [**2123-5-20**] 04:53 AM
   Micafungin - [**2123-5-20**] 06:44 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-5-19**] 09:00 PM
   Other medications:
   chlorhex
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Foley
   Flowsheet Data as of  [**2123-5-20**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 79 (79 - 98) bpm
   BP: 145/71(90) {123/68(80) - 150/83(98)} mmHg
   RR: 37 (27 - 45) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,109 mL
                                                                  1,045 mL
   PO:
             TF:
   IVF:
                                                                  1,757 mL
                                                                    525 mL
   Blood products:
   Total out:
                                                                  3,710 mL
                                                                  1,490 mL
   Urine:
                                                                  2,680 mL
                                                                  1,440 mL
   NG:
                                                                    295 mL
   Stool:
   Drains:
                                                                    735 mL
                                                                     50 mL
   Balance:
                                                                   -601 mL
                                                                   -445 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Abdominal: Soft, Non-tender, Bowel sounds present, open wound at top of
   incision
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   390 K/uL
   110 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.2 mEq/L
   40 mg/dL
   116 mEq/L
   145 mEq/L
   26.5 %
   14.2 K/uL
        [image002.jpg]
                             [**2123-5-17**]  01:55 AM
                             [**2123-5-17**]  02:16 PM
                             [**2123-5-17**]  09:15 PM
                             [**2123-5-18**]  03:09 AM
                             [**2123-5-18**]  12:46 PM
                             [**2123-5-18**]  10:08 PM
                             [**2123-5-19**]  03:12 AM
                             [**2123-5-19**]  03:09 PM
                             [**2123-5-19**]  04:44 PM
                             [**2123-5-20**]  04:18 AM
   WBC
   10.4
   12.4
   12.3
   14.2
   Hct
   25.8
   27.2
   28.8
   27.1
   27.7
   29
   27.4
   29.1
   26.5
   Plt
   [**Telephone/Fax (3) 12647**]90
   Cr
   1.1
   1.1
   1.0
   0.9
   0.9
   1.0
   TCO2
   19
   Glucose
   95
   [**Telephone/Fax (3) 12648**]24
   135
   110
   Other labs: PT / PTT / INR:15.7/28.5/1.4, ALT / AST:203/97, Alk Phos /
   T Bili:314/6.3, Amylase / Lipase:/21, Differential-Neuts:85.2 %,
   Lymph:11.4 %, Mono:2.6 %, Eos:0.3 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.2 g/dL, LDH:277 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   Abdominal  sepsis:  vanco/meropenem/micafungin - will discuss with ID
   about course.
   C. diff:  on flagyl
   respiratory failure:  will speak with IP about downsizing the trach.
   Anemia:  anemia down trending, but no evidence of gross bleeding.
   feeding:  will speak to IR about doing G-J tube.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2123-5-19**] 04:08 PM 56.[**Telephone/Fax (5) 12649**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2123-5-16**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2123-05-21 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - smaller trach placed by IP
   - IR to take tomorrow for GJ tube placement for nutrition. 16 hour
   premedication protocol started (adapted for IV dosing per pharmacy
   recs).  Doses remaining at -2 and -1 hours.
   - Trending hypernatremic on PM labs so ordered for 1 L of D5W (free
   water deficit is ~2.6L, but will reassess in AM after next Na check)
   - Tachypneic in early evening to 40s with ABG showing PaCO2 of 28, so
   ordered 2 mg IV morphine to relax breathing
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-5-20**] 04:53 AM
   Vancomycin - [**2123-5-20**] 08:30 PM
   Metronidazole - [**2123-5-21**] 02:10 AM
   Meropenem - [**2123-5-21**] 04:15 AM
   Micafungin - [**2123-5-21**] 05:45 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2123-5-20**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Unchanged
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No changes
   Flowsheet Data as of  [**2123-5-21**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.6
   HR: 79 (72 - 95) bpm
   BP: 147/85(99) {126/71(88) - 158/85(99)} mmHg
   RR: 32 (25 - 50) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,528 mL
                                                                  1,533 mL
   PO:
             TF:
   IVF:
                                                                  1,828 mL
                                                                  1,022 mL
   Blood products:
   Total out:
                                                                  3,830 mL
                                                                  1,215 mL
   Urine:
                                                                  3,460 mL
                                                                    960 mL
   NG:
                                                                    220 mL
                                                                     65 mL
   Stool:
   Drains:
                                                                    150 mL
                                                                    190 mL
   Balance:
                                                                   -302 mL
                                                                    318 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: 7.46/28/98.[**Numeric Identifier 20**]/20/-1
   PaO2 / FiO2: 280
   Physical Examination
   Neuro: alert, responsive, following commands.
   HEENT: Tooth #14 appears loose, not imminently falling out
   CV: regular rate and rhythm, no m/r/g
   Pulm: CTAB
   Abdomen: Open areas in midline incision with visible fascia underneath
   Extremities: Edema of extremities x 4, pneumoboots in place
   Labs / Radiology
   359 K/uL
   8.4 g/dL
   201 mg/dL
   0.9 mg/dL
   20 mEq/L
   4.6 mEq/L
   43 mg/dL
   113 mEq/L
   141 mEq/L
   27.5 %
   12.7 K/uL
        [image002.jpg]
                             [**2123-5-18**]  03:09 AM
                             [**2123-5-18**]  12:46 PM
                             [**2123-5-18**]  10:08 PM
                             [**2123-5-19**]  03:12 AM
                             [**2123-5-19**]  03:09 PM
                             [**2123-5-19**]  04:44 PM
                             [**2123-5-20**]  04:18 AM
                             [**2123-5-20**]  02:06 PM
                             [**2123-5-20**]  05:44 PM
                             [**2123-5-21**]  04:15 AM
   WBC
   12.4
   12.3
   14.2
   12.7
   Hct
   27.1
   27.7
   29
   27.4
   29.1
   26.5
   28.2
   27.5
   Plt
   338
   386
   390
   359
   Cr
   1.0
   0.9
   0.9
   1.0
   0.9
   TCO2
   19
   21
   Glucose
   113
   138
   124
   135
   110
   201
   Other labs: PT / PTT / INR:14.5/28.3/1.3, ALT / AST:164/81, Alk Phos /
   T Bili:381/5.4, Amylase / Lipase:/21, Differential-Neuts:85.2 %,
   Lymph:11.4 %, Mono:2.6 %, Eos:0.3 %, Lactic Acid:1.8 mmol/L,
   Albumin:2.2 g/dL, LDH:277 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
   74 yo male s/p multiple surgical interventions at an OSH now being
   transferred to [**Hospital1 5**] with concern for infected mesh, infected hematoma,
   and respiratory failure.
   # Fever:  Most likely intra-abdominal infection with gram negative rods
   (E. Coli, Klebsiella) growing in peritoneal fluid.  Concern for
   surgical site infection, infected mesh, hematoma.  Patient now afebrile
   since [**2123-5-15**] at noon.  Also found to be c. difficile positive.
   - trend fever curve
   - f/u blood culture
   - continue meropenem, vancomycin; redose for trough <15
   - continue micafungin for yeast ; f/u on sensitivies here (at OSH,
   yeast was C. [**Hospital 12620**] hospital does not do sensitivities)
    - pt underwent line holiday, now with PICC line in place
   - f/u ID recs
   - continue flagyl for C. diff
   - F/U surgery recs re: abdominal incision openings
   # Respiratory failure: Trached, was on vent; patient with respiratory
   rate 20s.  ABG with primary respiratory alkalosis. Has been
   transitioned to trach collar and doing well for several days. One
   episode of tachypnea last night into the 30s.
   - continue to monitor respiratory status closely
   - Speech/swallow to visit today for valve placement to enable pt to
   speak
   # Incision Drainage
 surgical incision now with bilious/purulent
   drainage from proximal incision site s/p staple removal.
   - F/u Cx
   - f/u surgery recommendations
   # Hypernatremia: Patient continued with hypernatremia last night and
   received 1 liter of D5W.  Subsequently, sodium stable at 141 this
   morning
   - check sodium [**Hospital1 **]
   .
   #Melena:  Patient with episodes of melena early during this
   hospitalization, remained hemodynamically stable with stable HCT this
   morning.
   - monitor HCT [**Hospital1 **]
   - transfuse for HCT <25 or active bleeding
   - f/u GI recs
 no plan to scope at this time
   .
   #Liver mass:
   - AFP normal
   - consider further imaging to further characterize, though patient
   cannot have MRI due to L THR that is not compatible with MRI.
   .
   # Nutrition: KUB showing minimal gas throughout the small and large
   bowel, duodenostomy study with contrast that did not progress beyond
   the duodenum.  Drains in place still draining white contrast.
   - currently on TPN
   - Optimal would be enteral feeding
 will need to coordinate with
   either GI or IR to place distal feeding tube beyond EC fistula
   - Plan initially for fluoro guided [**Last Name (un) 1446**]-intestinal feeding tube; will
   need to go to IR for procedure -  this intervention will require
   contrast dye; patient currently being loaded with solumedrol,
   famotidine, and Benadryl.
   .
   # CMV +:
   - f/u ID recs regarding suppressive therapy
   - consider ophthalmology consult
   .
   # Head Bobbing: ? seizure activity.  Started on day of admission per
   daughter. [**Name (NI) **] history of seizures in the past, though decreased rhythmic
   activity overnight on HD 1.  No further head bobbing or seizure like
   activity.
   - f/u EEG read (note: machine accidentally kicked by a family member
   near end of recording strip; this could possibly account for
   abnormality around that time)
   # Elevated LFTs: possibly due to hypoperfusion vs. hepatitis C
   infection. LFTs trending down.
   - continue to trend daily
   - f/u T tube cholangiogram final read
   # ? Cracked molar
 Will monitor for now as not loose; if becomes loose
   and concern for aspiration, will contact dental for extraction.
   # ARF: Reached peak of 1.9 from baseline of 1.0. Likely prerenal given
   elevated sodium.  After NS fluid bolus and 2 liters of D5W for
   hypernatremia, creatinine improved to 1.1.
   - continue IVF boluses as needed and continue to monitor UOP and renal
   function.
   .
   # CAD: on b-blocker, statin, aspirin at home, not continued at OSH
   .
   # Aortic regurgitation:
   - Monitor volume status and hemodynamics
   .
   # Hyperglycemia:  likely due to D5W for management of hypernatremia
   - insulin sliding scale
   .
   # FEN: No IVF, replete electrolytes, picc line,  TPN
   # Prophylaxis: pneumoboots for now
   # Access: PICC
   # Communication: daughter [**Name (NI) 532**] [**Known lastname 12477**] is HCP [**Telephone/Fax (1) 12482**].
   # Code:  Full per HCP daughter
   # Disposition: ICU pending clinical improvement
 discuss D/C to
   [**Hospital1 **] with CM
   ICU Care
   Nutrition:
   TPN without Lipids - [**2123-5-20**] 04:28 PM 70.[**Telephone/Fax (5) 2666**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2123-5-16**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2123-05-21 12:12:00 Physician Attending Progress Note
Chief Complaint: abdominal sepsis.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   74 yo with abdominal sepsis, multiple surgeries.  Trach downsized
   yesterday, and to go to IR today to get G-J tube.
   24 Hour Events:
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-5-20**] 04:53 AM
   Vancomycin - [**2123-5-20**] 08:30 PM
   Micafungin - [**2123-5-21**] 05:45 AM
   Meropenem - [**2123-5-21**] 09:30 AM
   Metronidazole - [**2123-5-21**] 10:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2123-5-20**] 06:00 PM
   Pantoprazole (Protonix) - [**2123-5-21**] 07:53 AM
   Other medications:
   micafungin
   protonix
   chlorhexidine
   SSI
   meropenem
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-5-21**] 12:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (97
   HR: 78 (72 - 95) bpm
   BP: 151/85(100) {133/72(88) - 158/86(103)} mmHg
   RR: 31 (25 - 50) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,528 mL
                                                                  2,543 mL
   PO:
             TF:
   IVF:
                                                                  1,828 mL
                                                                  1,700 mL
   Blood products:
   Total out:
                                                                  3,830 mL
                                                                  1,935 mL
   Urine:
                                                                  3,460 mL
                                                                  1,460 mL
   NG:
                                                                    220 mL
                                                                     65 mL
   Stool:
   Drains:
                                                                    150 mL
                                                                    410 mL
   Balance:
                                                                   -302 mL
                                                                    608 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: 7.46/28/98.[**Numeric Identifier 20**]/20/-1
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, wound with slight
   yellowish drainage
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   359 K/uL
   201 mg/dL
   0.9 mg/dL
   20 mEq/L
   4.6 mEq/L
   43 mg/dL
   113 mEq/L
   141 mEq/L
   27.5 %
   12.7 K/uL
        [image002.jpg]
                             [**2123-5-18**]  03:09 AM
                             [**2123-5-18**]  12:46 PM
                             [**2123-5-18**]  10:08 PM
                             [**2123-5-19**]  03:12 AM
                             [**2123-5-19**]  03:09 PM
                             [**2123-5-19**]  04:44 PM
                             [**2123-5-20**]  04:18 AM
                             [**2123-5-20**]  02:06 PM
                             [**2123-5-20**]  05:44 PM
                             [**2123-5-21**]  04:15 AM
   WBC
   12.4
   12.3
   14.2
   12.7
   Hct
   27.1
   27.7
   29
   27.4
   29.1
   26.5
   28.2
   27.5
   Plt
   338
   386
   390
   359
   Cr
   1.0
   0.9
   0.9
   1.0
   0.9
   TCO2
   19
   21
   Glucose
   113
   138
   124
   135
   110
   201
   Other labs: PT / PTT / INR:14.5/28.3/1.3, ALT / AST:164/81, Alk Phos /
   T Bili:381/5.4, Amylase / Lipase:/21, Differential-Neuts:85.2 %,
   Lymph:11.4 %, Mono:2.6 %, Eos:0.3 %, Lactic Acid:1.8 mmol/L,
   Albumin:2.2 g/dL, LDH:277 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 ALTERATION IN NUTRITION
 HYPERNATREMIA (HIGH SODIUM)
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 WOUND INFECTION
   Will get G-J tube today, start TFs after G-J placement today.
   Will get S+S study for PMV eval.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2123-5-20**] 04:28 PM 70.[**Telephone/Fax (5) 2666**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2123-5-16**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2123-05-22 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Did not get G to J tube given concern of passage through duodenum.
   Plan is now to start tube feeds through duodenostomy tube.
   - Goals are enteral nutrition, promote wound healing so that that some
   time in the future general surgery may repair
   - Speech and swallow placed passy muir valve, having trouble using
   - Nutrition has recs in chart for TF (vivonex 10ml/hr x24 hr then
   advance as tolerated to goal 80cc/hr) through duodenostomy tube (NOT
   G-tube). Ordered and will start in AM. Not clear that this formulation
   at LTCF so may need to address
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-5-20**] 04:53 AM
   Vancomycin - [**2123-5-21**] 08:06 PM
   Metronidazole - [**2123-5-22**] 02:15 AM
   Meropenem - [**2123-5-22**] 04:10 AM
   Micafungin - [**2123-5-22**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-5-21**] 08:06 PM
   Other medications:
   Changes to medical and family history:
   Unchanged
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unchanged
   Flowsheet Data as of  [**2123-5-22**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.7
C (96.3
   HR: 94 (72 - 94) bpm
   BP: 139/82(95) {130/74(88) - 159/86(103)} mmHg
   RR: 34 (24 - 46) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,837 mL
                                                                    911 mL
   PO:
             TF:
   IVF:
                                                                  2,111 mL
                                                                    366 mL
   Blood products:
   Total out:
                                                                  3,835 mL
                                                                  1,125 mL
   Urine:
                                                                  2,900 mL
                                                                    860 mL
   NG:
                                                                    155 mL
                                                                     60 mL
   Stool:
   Drains:
                                                                    780 mL
                                                                    205 mL
   Balance:
                                                                      2 mL
                                                                   -214 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   Neuro: alert, responsive, following commands.
   HEENT: NC/AT. Supple
   CV: regular rate and rhythm, no m/r/g
   Pulm: CTAB
   Abdomen: Open areas in midline incision with visible fascia underneath
   Extremities: Edema of extremities x 4, pneumoboots in place
   Labs / Radiology
   445 K/uL
   9.0 g/dL
   122 mg/dL
   0.8 mg/dL
   20 mEq/L
   3.8 mEq/L
   47 mg/dL
   113 mEq/L
   142 mEq/L
   27.6 %
   17.1 K/uL
        [image002.jpg]
                             [**2123-5-18**]  12:46 PM
                             [**2123-5-18**]  10:08 PM
                             [**2123-5-19**]  03:12 AM
                             [**2123-5-19**]  03:09 PM
                             [**2123-5-19**]  04:44 PM
                             [**2123-5-20**]  04:18 AM
                             [**2123-5-20**]  02:06 PM
                             [**2123-5-20**]  05:44 PM
                             [**2123-5-21**]  04:15 AM
                             [**2123-5-22**]  04:05 AM
   WBC
   12.3
   14.2
   12.7
   17.1
   Hct
   27.7
   29
   27.4
   29.1
   26.5
   28.2
   27.5
   27.6
   Plt
   [**Telephone/Fax (3) 12688**]45
   Cr
   0.9
   0.9
   1.0
   0.9
   0.8
   TCO2
   19
   21
   Glucose
   138
   124
   135
   110
   201
   122
   Other labs: PT / PTT / INR:14.4/27.8/1.2, ALT / AST:133/59, Alk Phos /
   T Bili:361/4.8, Amylase / Lipase:/21, Differential-Neuts:85.2 %,
   Lymph:11.4 %, Mono:2.6 %, Eos:0.3 %, Lactic Acid:1.8 mmol/L,
   Albumin:2.6 g/dL, LDH:246 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   74 yo male s/p multiple surgical interventions at an OSH now being
   transferred to [**Hospital1 5**] with concern for infected mesh, infected hematoma,
   and respiratory failure.
   # Fever:  Most likely intra-abdominal infection with gram negative rods
   (E. Coli, Klebsiella) growing in peritoneal fluid.  Concern for
   surgical site infection, infected mesh, hematoma.  Patient now afebrile
   since [**2123-5-15**] at noon.  Also found to be c. difficile positive.
   - trend fever curve
   - f/u microdata here
   - continue meropenem, vancomycin; redose for trough <15
   - continue micafungin for yeast ; f/u on sensitivies here (at OSH,
   yeast was C. [**Hospital 12620**] hospital does not do sensitivities). If LFTs
   normalize may transition to fluconazole
    - pt underwent line holiday, now with PICC line in place
   - f/u ID recs
   - continue flagyl IV for C. diff
   - F/U surgery recs re: abdominal incision openings
   # Respiratory failure: Trached, was on vent; patient with respiratory
   rate 20s.  ABG with primary respiratory alkalosis. Has been
   transitioned to trach collar and doing well for several days. One
   episode of tachypnea last night into the 30s.
   - continue to monitor respiratory status closely
   - now has PMV in place though not yet able to speak.
   # Incision Drainage
 surgical incision now with bilious/purulent
   drainage from proximal incision site s/p staple removal.
   - F/u Cx
   - f/u surgery recommendations
   # Hypernatremia: Patient continued with hypernatremia last night and
   received 1 liter of D5W.  Subsequently, sodium stable at 142 this
   morning
   - check sodium [**Hospital1 **]
   .
   #Melena:  Patient with episodes of melena early during this
   hospitalization, remained hemodynamically stable with stable HCT this
   morning.
   - monitor HCT [**Hospital1 **]
   - transfuse for HCT <25 or active bleeding
   - f/u GI recs
 no plan to scope at this time
   .
   #Liver mass:
   - AFP normal
   - consider further imaging to further characterize, though patient
   cannot have MRI due to L THR that is not compatible with MRI.
   .
   # Nutrition: KUB showing minimal gas throughout the small and large
   bowel, duodenostomy study with contrast that did not progress beyond
   the duodenum.  Drains in place still draining white contrast.
   - currently on TPN
   - Optimal would be enteral feeding
 will need to coordinate with
   either GI or IR to place distal feeding tube beyond EC fistula
   - Plan initially for fluoro guided [**Last Name (un) 1446**]-intestinal feeding tube; then
   changed to IR for procedure -  this intervention would have required
   contrast dye; patient loaded with solumedrol, famotidine, and Benadryl.
   - feeding tube not placed due to concern about passing through the
   duodenum.  Will attempt tube feeds via existing duodenostomy tube with
   tube feeds based on nutrition recs.
   .
   # CMV +:
   - f/u ID recs regarding suppressive therapy
   - consider ophthalmology consult
   .
   # Head Bobbing: ? seizure activity.  Started on day of admission per
   daughter. [**Name (NI) **] history of seizures in the past, though decreased rhythmic
   activity overnight on HD 1.  No further head bobbing or seizure like
   activity.
   - f/u EEG read (note: machine accidentally kicked by a family member
   near end of recording strip; this could possibly account for
   abnormality around that time)
   .
   # Elevated LFTs: possibly due to hypoperfusion vs. hepatitis C
   infection. LFTs trending down.
   - continue to trend daily
   .
   # ? Cracked molar
 Will monitor for now as not loose; if becomes loose
   and concern for aspiration, will contact dental for extraction.
   .
   # ARF: Reached peak of 1.9 from baseline of 1.0. Likely prerenal given
   elevated sodium.  After NS fluid bolus and 2 liters of D5W for
   hypernatremia, creatinine improved to 1.1.
   - continue IVF boluses as needed and continue to monitor UOP and renal
   function.
   .
   # CAD: on b-blocker, statin, aspirin at home, not continued at OSH
   .
   # Aortic regurgitation:
   - Monitor volume status and hemodynamics
   .
   # Hyperglycemia:  likely due to D5W for management of hypernatremia
   - insulin sliding scale
   .
   # FEN: No IVF, replete electrolytes, picc line,  TPN
   # Prophylaxis: pneumoboots for now
   # Access: PICC
   # Communication: daughter [**Name (NI) 532**] [**Known lastname 12477**] is HCP [**Telephone/Fax (1) 12482**].
   # Code:  Full per HCP daughter
   # Disposition: ICU pending clinical improvement
 discuss D/C to
   [**Hospital1 **] with CM
   ICU Care
   Nutrition:
   TPN without Lipids - [**2123-5-21**] 06:07 PM 75 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2123-5-16**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2123-05-22 12:20:00 Physician Attending Progress Note
Chief Complaint: Chronic respiratory failure, post-surgical abd
   infection
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Pt somnolent but denies pain
   24 Hour Events:
   WBC up to 17 today
   History obtained from [**Hospital 19**] Medical records, icu team
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2123-5-20**] 04:53 AM
   Vancomycin - [**2123-5-21**] 08:06 PM
   Micafungin - [**2123-5-22**] 06:00 AM
   Meropenem - [**2123-5-22**] 10:00 AM
   Metronidazole - [**2123-5-22**] 10:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-5-22**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: Tachypnea, trach collar
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2123-5-22**] 12:20 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.6
C (96
   HR: 102 (72 - 105) bpm
   BP: 142/85(97) {130/74(88) - 157/87(103)} mmHg
   RR: 30 (24 - 34) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,837 mL
                                                                  1,533 mL
   PO:
             TF:
   IVF:
                                                                  2,111 mL
                                                                    630 mL
   Blood products:
   Total out:
                                                                  3,835 mL
                                                                  1,905 mL
   Urine:
                                                                  2,900 mL
                                                                  1,640 mL
   NG:
                                                                    155 mL
                                                                     60 mL
   Stool:
   Drains:
                                                                    780 mL
                                                                    205 mL
   Balance:
                                                                      2 mL
                                                                   -371 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Non-tender, midline incision with mild purulent drainage at
   superior aspect
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, somnolent
   Labs / Radiology
   9.0 g/dL
   445 K/uL
   122 mg/dL
   0.8 mg/dL
   20 mEq/L
   3.8 mEq/L
   47 mg/dL
   113 mEq/L
   142 mEq/L
   27.6 %
   17.1 K/uL
        [image002.jpg]
                             [**2123-5-18**]  12:46 PM
                             [**2123-5-18**]  10:08 PM
                             [**2123-5-19**]  03:12 AM
                             [**2123-5-19**]  03:09 PM
                             [**2123-5-19**]  04:44 PM
                             [**2123-5-20**]  04:18 AM
                             [**2123-5-20**]  02:06 PM
                             [**2123-5-20**]  05:44 PM
                             [**2123-5-21**]  04:15 AM
                             [**2123-5-22**]  04:05 AM
   WBC
   12.3
   14.2
   12.7
   17.1
   Hct
   27.7
   29
   27.4
   29.1
   26.5
   28.2
   27.5
   27.6
   Plt
   [**Telephone/Fax (3) 12688**]45
   Cr
   0.9
   0.9
   1.0
   0.9
   0.8
   TCO2
   19
   21
   Glucose
   138
   124
   135
   110
   201
   122
   Other labs: PT / PTT / INR:14.4/27.8/1.2, ALT / AST:133/59, Alk Phos /
   T Bili:361/4.8, Amylase / Lipase:/21, Differential-Neuts:85.2 %,
   Lymph:11.4 %, Mono:2.6 %, Eos:0.3 %, Lactic Acid:1.8 mmol/L,
   Albumin:2.6 g/dL, LDH:246 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 ALTERATION IN NUTRITION
 HYPERNATREMIA (HIGH SODIUM)
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 WOUND INFECTION
   74 yo with abdominal sepsis, multiple surgeries post gastric artery
   laceration during ERCP.
   Polymicrobial infection: Cont vanc/[**Last Name (un) **]/micafungin/flagyl
   Respiratory failure: Trach masking consistently
   Incision Drainage
cont to monitor
   Nutrition: Will attempt tube feeds at low volume via existing
   duodenostomy starting today and monitor drains for extravasation of
   feeds
   .
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2123-5-21**] 06:07 PM 75 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2123-5-16**] 02:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2123-05-23 06:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - started on tube feeds with no obvious deleterious effects.  Will
   continue at 10ml/hr x 24 hours and then increase as tolerated to goal
   of 80ml/hr.
   - Patient accepted at [**Hospital 858**] Rehab; family quite pleased with their
   tour and would like the patient to be transferred to [**Hospital 858**] Rehab when
   clinically indicated.
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2123-5-21**] 08:06 PM
   Micafungin - [**2123-5-22**] 06:00 AM
   Meropenem - [**2123-5-23**] 12:23 AM
   Metronidazole - [**2123-5-23**] 02:44 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-5-22**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Unchanged
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No changes
   Flowsheet Data as of  [**2123-5-23**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 105 (94 - 110) bpm
   BP: 128/76(89) {111/70(86) - 148/92(101)} mmHg
   RR: 29 (24 - 37) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,736 mL
                                                                    759 mL
   PO:
             TF:
                                                                     75 mL
                                                                     59 mL
   IVF:
                                                                    860 mL
                                                                    259 mL
   Blood products:
   Total out:
                                                                  4,032 mL
                                                                  1,147 mL
   Urine:
                                                                  3,140 mL
                                                                    840 mL
   NG:
                                                                    237 mL
                                                                    117 mL
   Stool:
   Drains:
                                                                    655 mL
                                                                    190 mL
   Balance:
                                                                 -1,296 mL
                                                                   -388 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   Neuro: alert, responsive, following commands.
   HEENT: NC/AT. Supple
   CV: regular rate and rhythm, no m/r/g
   Pulm: diffuse inspiratory and expiratory rhonchi
   Abdomen: Open areas in midline incision with visible fascia underneath
   Extremities: no lower extremity edema, pneumoboots in place
   Labs / Radiology
   374 K/uL
   9.3 g/dL
   132 mg/dL
   0.8 mg/dL
   20 mEq/L
   4.0 mEq/L
   46 mg/dL
   113 mEq/L
   142 mEq/L
   28.6 %
   15.1 K/uL
        [image002.jpg]
                             [**2123-5-18**]  10:08 PM
                             [**2123-5-19**]  03:12 AM
                             [**2123-5-19**]  03:09 PM
                             [**2123-5-19**]  04:44 PM
                             [**2123-5-20**]  04:18 AM
                             [**2123-5-20**]  02:06 PM
                             [**2123-5-20**]  05:44 PM
                             [**2123-5-21**]  04:15 AM
                             [**2123-5-22**]  04:05 AM
                             [**2123-5-23**]  02:24 AM
   WBC
   12.3
   14.2
   12.7
   17.1
   15.1
   Hct
   29
   27.4
   29.1
   26.5
   28.2
   27.5
   27.6
   28.6
   Plt
   [**Telephone/Fax (3) 12688**]45
   374
   Cr
   0.9
   0.9
   1.0
   0.9
   0.8
   0.8
   TCO2
   19
   21
   Glucose
   124
   135
   110
   [**Telephone/Fax (3) 12701**]
   Other labs: PT / PTT / INR:14.7/29.0/1.3, ALT / AST:107/56, Alk Phos /
   T Bili:363/4.5, Amylase / Lipase:/21, Differential-Neuts:85.2 %,
   Lymph:11.4 %, Mono:2.6 %, Eos:0.3 %, Lactic Acid:1.8 mmol/L,
   Albumin:2.6 g/dL, LDH:246 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
   74 yo male s/p multiple surgical interventions at an OSH now being
   transferred to [**Hospital1 5**] with concern for infected mesh, infected hematoma,
   and respiratory failure.
   # Fever/Abdominal Pathology:  Most likely intra-abdominal infection
   with gram negative rods (E. Coli, Klebsiella) growing in peritoneal
   fluid.  Concern for surgical site infection, infected mesh, hematoma.
   Patient now afebrile since [**2123-5-15**] at noon.  Also found to be c.
   difficile positive.
   - trend fever curve
   - f/u microdata here
   - continue meropenem; vancomycin discontinued on [**2123-5-22**]
   - continue micafungin for yeast ; f/u on sensitivies here (at OSH,
   yeast was C. [**Hospital 12620**] hospital does not do sensitivities). If LFTs
   normalize may transition to fluconazole
    - pt underwent line holiday, now with PICC line in place
   - f/u ID recs
   - continue flagyl IV for C. diff
   - F/U surgery recs re: abdominal incision openings
   .
   # Nutrition: KUB showing minimal gas throughout the small and large
   bowel, duodenostomy study with contrast that did not progress beyond
   the duodenum. Plan initially for fluoro guided [**Last Name (un) 1446**]-intestinal feeding
   tube; then changed to IR for procedure -  this intervention would have
   required contrast dye; patient loaded with solumedrol, famotidine, and
   Benadryl.
   Feeding tube not placed due to concern about passing through the
   duodenum.  Will attempt tube feeds via existing duodenostomy tube with
   tube feeds based on nutrition recs.
   - currently on TPN
   - Continue current tube feeds at 10ml/hour for a total of 24 hours.
   Then, increase tube feeds as tolerated for goal of 80 ml/hr.
   .
   # Respiratory failure: Trached, was on vent; patient with respiratory
   rate 20s.  ABG with primary respiratory alkalosis. Has been
   transitioned to trach collar and doing well for several days. One
   episode of tachypnea last night into the 30s.
   - continue to monitor respiratory status closely
   - now has PMV in place though not yet able to speak.
   # Incision Drainage
 surgical incision now with bilious/purulent
   drainage from proximal incision site s/p staple removal.
   - F/u Cx
   - f/u surgery recommendations
   # Hypernatremia: No further hypernatremia
   - check sodium [**Hospital1 **]
   .
   #Melena:  Patient with episodes of melena early during this
   hospitalization, remained hemodynamically stable with stable HCT this
   morning.
   - monitor HCT [**Hospital1 **]
   - transfuse for HCT <25 or active bleeding
   - f/u GI recs
 no plan to scope at this time
   .
   #Liver mass:
   - AFP normal
   - consider further imaging to further characterize, though patient
   cannot have MRI due to L THR that is not compatible with MRI.
   .
   # CMV +:
   - f/u ID recs regarding suppressive therapy
   - consider ophthalmology consult
   .
   # Head Bobbing: ? seizure activity.  Started on day of admission per
   daughter. [**Name (NI) **] history of seizures in the past, though decreased rhythmic
   activity overnight on HD 1.  No further head bobbing or seizure like
   activity.
   - f/u EEG read (note: machine accidentally kicked by a family member
   near end of recording strip; this could possibly account for
   abnormality around that time)
   .
   # Elevated LFTs: possibly due to hypoperfusion vs. hepatitis C
   infection. LFTs trending down.
   - continue to trend daily
   .
   # ? Cracked molar
 Will monitor for now as not loose; if becomes loose
   and concern for aspiration, will contact dental for extraction.
   .
   # ARF: Reached peak of 1.9 from baseline of 1.0. Likely prerenal given
   elevated sodium.  After NS fluid bolus and 2 liters of D5W for
   hypernatremia, creatinine improved to 1.1.
   - continue IVF boluses as needed and continue to monitor UOP and renal
   function.
   .
   # CAD: on b-blocker, statin, aspirin at home, not continued at OSH
   .
   # Aortic regurgitation:
   - Monitor volume status and hemodynamics
   .
   # Hyperglycemia:  likely due to D5W for management of hypernatremia
   - insulin sliding scale
   .
   # FEN: No IVF, replete electrolytes, picc line,  TPN
   # Prophylaxis: pneumoboots for now
   # Access: PICC
   # Communication: daughter [**Name (NI) 532**] [**Known lastname 12477**] is HCP [**Telephone/Fax (1) 12482**].
   # Code:  Full per HCP daughter
   # Disposition: ICU pending clinical improvement
 discuss D/C to
   [**Hospital1 **] with CM
   ICU Care
   Nutrition:
   TPN without Lipids - [**2123-5-22**] 04:43 PM 75 mL/hour
   Vivonex (Full) - [**2123-5-23**] 02:27 AM 10 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2123-5-16**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2123-05-23 10:57:00 Physician Attending Progress Note
Chief Complaint: Polymicrobial abdominal infection
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Started on tube feeds at 10ml per hr yestreday and doing well.
   24 Hour Events:
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2123-5-21**] 08:06 PM
   Metronidazole - [**2123-5-23**] 02:44 AM
   Micafungin - [**2123-5-23**] 06:09 AM
   Meropenem - [**2123-5-23**] 07:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-5-23**] 07:30 AM
   Other medications:
   per ICU team
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Tachycardia
   Nutritional Support: Tube feeds, Parenteral nutrition
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2123-5-23**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36
C (96.8
   HR: 111 (94 - 113) bpm
   BP: 131/73(86) {111/67(81) - 147/92(101)} mmHg
   RR: 34 (24 - 37) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,736 mL
                                                                  1,333 mL
   PO:
             TF:
                                                                     75 mL
                                                                    108 mL
   IVF:
                                                                    860 mL
                                                                    418 mL
   Blood products:
   Total out:
                                                                  4,032 mL
                                                                  1,407 mL
   Urine:
                                                                  3,140 mL
                                                                  1,100 mL
   NG:
                                                                    237 mL
                                                                    117 mL
   Stool:
   Drains:
                                                                    655 mL
                                                                    190 mL
   Balance:
                                                                 -1,296 mL
                                                                    -74 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered transmitted upper airway sounds)
   Abdominal: Non-tender, less drainage from superior aspect of midline
   incision
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   374 K/uL
   132 mg/dL
   0.8 mg/dL
   20 mEq/L
   4.0 mEq/L
   46 mg/dL
   113 mEq/L
   142 mEq/L
   28.6 %
   15.1 K/uL
        [image002.jpg]
                             [**2123-5-18**]  10:08 PM
                             [**2123-5-19**]  03:12 AM
                             [**2123-5-19**]  03:09 PM
                             [**2123-5-19**]  04:44 PM
                             [**2123-5-20**]  04:18 AM
                             [**2123-5-20**]  02:06 PM
                             [**2123-5-20**]  05:44 PM
                             [**2123-5-21**]  04:15 AM
                             [**2123-5-22**]  04:05 AM
                             [**2123-5-23**]  02:24 AM
   WBC
   12.3
   14.2
   12.7
   17.1
   15.1
   Hct
   29
   27.4
   29.1
   26.5
   28.2
   27.5
   27.6
   28.6
   Plt
   [**Telephone/Fax (3) 12688**]45
   374
   Cr
   0.9
   0.9
   1.0
   0.9
   0.8
   0.8
   TCO2
   19
   21
   Glucose
   124
   135
   110
   [**Telephone/Fax (3) 12701**]
   Other labs: PT / PTT / INR:14.7/29.0/1.3, ALT / AST:107/56, Alk Phos /
   T Bili:363/4.5, Amylase / Lipase:/21, Differential-Neuts:85.2 %,
   Lymph:11.4 %, Mono:2.6 %, Eos:0.3 %, Lactic Acid:1.8 mmol/L,
   Albumin:2.6 g/dL, LDH:246 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:4.0
   mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ELECTROLYTE & FLUID DISORDER, OTHER
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 ALTERATION IN NUTRITION
 HYPERNATREMIA (HIGH SODIUM)
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 WOUND INFECTION
   74 yo with abdominal sepsis, multiple surgeries post gastric artery
   laceration during ERCP.
   Polymicrobial infection: Cont vanc/[**Last Name (un) **]/micafungin/flagyl for 6 weeks.
   Appreciate ongoing ID input
   Respiratory failure: Trach masking consistently
   Incision Drainage
cont to monitor
   Nutrition: Tolerating low dose tube feeds will advance as tolerated
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2123-5-22**] 04:43 PM 75 mL/hour
   Vivonex (Full) - [**2123-5-23**] 02:27 AM 10 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2123-5-16**] 02:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2123-05-24 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - TF advanced to 20 cc/hr this afternoon. 3rd JP drain (leftmost)
   draining fluid that is very faintly milky and concerning for ? TF fluid
   leakage (notified surgery)
   - [**Doctor First Name **] recs for TF at goal and off TPN prior to D/C to rehab;
   wet-to-dry dressing changes for patient's midline incision
   - ID: no new recs
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2123-5-21**] 08:06 PM
   Meropenem - [**2123-5-24**] 12:20 AM
   Metronidazole - [**2123-5-24**] 02:15 AM
   Micafungin - [**2123-5-24**] 06:22 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-5-23**] 08:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-5-24**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 111 (91 - 114) bpm
   BP: 71/22(31) {71/22(31) - 155/91(105)} mmHg
   RR: 29 (23 - 38) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,992 mL
                                                                    947 mL
   PO:
             TF:
                                                                    332 mL
                                                                    143 mL
   IVF:
                                                                    861 mL
                                                                    271 mL
   Blood products:
   Total out:
                                                                  3,192 mL
                                                                  1,030 mL
   Urine:
                                                                  2,300 mL
                                                                    760 mL
   NG:
                                                                    257 mL
                                                                     70 mL
   Stool:
   Drains:
                                                                    635 mL
                                                                    200 mL
   Balance:
                                                                   -200 mL
                                                                    -83 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General: Intubated, interactive
   HEENT: NC/AT. Supple
   CV: regular rate and rhythm, no m/r/g
   Pulm: diffuse inspiratory and expiratory rhonchi
   Abdomen: Open areas in midline incision with visible fascia underneath
   Extremities: no lower extremity edema, pneumoboots in place
   Neuro: alert, responsive, following commands.
   Labs / Radiology
   328 K/uL
   9.1 g/dL
   150 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.7 mEq/L
   46 mg/dL
   114 mEq/L
   143 mEq/L
   27.5 %
   13.3 K/uL
        [image002.jpg]
                             [**2123-5-19**]  03:09 PM
                             [**2123-5-19**]  04:44 PM
                             [**2123-5-20**]  04:18 AM
                             [**2123-5-20**]  02:06 PM
                             [**2123-5-20**]  05:44 PM
                             [**2123-5-21**]  04:15 AM
                             [**2123-5-22**]  04:05 AM
                             [**2123-5-23**]  02:24 AM
                             [**2123-5-23**]  02:47 PM
                             [**2123-5-24**]  04:53 AM
   WBC
   14.2
   12.7
   17.1
   15.1
   13.3
   Hct
   29.1
   26.5
   28.2
   27.5
   27.6
   28.6
   28.4
   27.5
   Plt
   390
   359
   445
   374
   328
   Cr
   0.9
   1.0
   0.9
   0.8
   0.8
   0.8
   TCO2
   21
   Glucose
   135
   110
   201
   122
   132
   150
   Other labs: PT / PTT / INR:14.4/28.6/1.3,
   ALT / AST:79/49, Alk Phos / T Bili:321 (363)/ 4.2(4.5) Amylase /
   Lipase:/21, Lactic Acid:1.8 mmol/L, Albumin:2.4 g/dL, LDH:246
   Differential-Neuts:78.0 %, Band:0.0 %, Lymph:14.0 %, Mono:6.0 %,
   Eos:0.0 %,
   Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Wound culture: rare growth C. Albicans
   Assessment and Plan
   74 yo male s/p multiple surgical interventions at an OSH now being
   transferred to [**Hospital1 5**] with concern for infected mesh, infected hematoma,
   and respiratory failure.
   .
   # Fever/Abdominal Pathology:  Most likely intra-abdominal infection
   with gram negative rods (E. Coli, Klebsiella) growing in peritoneal
   fluid.  Concern for surgical site infection, infected mesh, hematoma.
   Patient now afebrile since [**2123-5-15**] at noon.  Also found to be c.
   difficile positive.  Vancomycin discontinued on [**2123-5-22**].
   - trend fever curve
   - f/u microdata here
   - continue meropenem (6 week course)
   - continue flagyl IV for C. diff (day 1 = [**5-16**])
   - continue micafungin for yeast ; f/u on sensitivies here (at OSH,
   yeast was C. [**Hospital 12620**] hospital does not do sensitivities).
   - f/u LFTs normalize consider transition to fluconazole
    - pt underwent line holiday, now with PICC line in place
   - f/u ID recs
   - F/U surgery recs re: abdominal incision openings
   - plan to transfer pt to surgery team today
   .
   # Nutrition: KUB showing minimal gas throughout the small and large
   bowel, duodenostomy study with contrast that did not progress beyond
   the duodenum. Plan initially for fluoro guided [**Last Name (un) 1446**]-intestinal feeding
   tube; then changed to IR for procedure -  this intervention would have
   required contrast dye; patient loaded with solumedrol, famotidine, and
   Benadryl.
   Feeding tube not placed due to concern about passing through the
   duodenum.  Will attempt tube feeds via existing duodenostomy tube with
   tube feeds based on nutrition recs. Tolerating tube feeds at 10cc for
   24 hours so advancing slowly towards goal of 80cc/hr.
   - currently on TPN
   - Continue tube feeds and advance slowly towards 80cc/hr
   .
   # Respiratory failure: Trached, was on vent; patient with respiratory
   rate 20s.  ABG with primary respiratory alkalosis. Has been
   transitioned to trach collar and doing well for several days. One
   episode of tachypnea last night into the 30s.
   - continue to monitor respiratory status closely
   - now has PMV in place though not yet able to speak.
   .
   # Incision Drainage
 surgical incision now with bilious/purulent
   drainage from proximal incision site s/p staple removal.
   - F/u Cx
   - f/u surgery recommendations
   # Hypernatremia: No further hypernatremia
   - check sodium qd
   .
   #Melena:  Patient with episodes of melena early during this
   hospitalization, remained hemodynamically stable with stable HCT this
   morning.
   - monitor HCT [**Hospital1 **]
   - transfuse for HCT <25 or active bleeding
   - f/u GI recs
 no plan to scope at this time
   .
   #Liver mass:
   - AFP normal
   - consider further imaging to further characterize, though patient
   cannot have MRI due to L THR that is not compatible with MRI.
   .
   # CMV +:
   - f/u ID recs regarding suppressive therapy
   - consider ophthalmology consult
   .
   # Head Bobbing: ? seizure activity.  Started on day of admission per
   daughter. [**Name (NI) **] history of seizures in the past, though decreased rhythmic
   activity overnight on HD 1.  No further head bobbing or seizure like
   activity.
   - f/u EEG read (note: machine accidentally kicked by a family member
   near end of recording strip; this could possibly account for
   abnormality around that time)
   .
   # Elevated LFTs: possibly due to hypoperfusion vs. hepatitis C
   infection. LFTs trending down.
   - continue to trend daily
   .
   # ? Cracked molar
 Will monitor for now as not loose; if becomes loose
   and concern for aspiration, will contact dental for extraction.
   .
   # ARF: Reached peak of 1.9 from baseline of 1.0. Likely prerenal given
   elevated sodium.  After NS fluid bolus and 2 liters of D5W for
   hypernatremia, creatinine improved to 1.1.
   - continue IVF boluses as needed and continue to monitor UOP and renal
   function.
   .
   # CAD: on b-blocker, statin, aspirin at home, not continued at OSH
   .
   # Aortic regurgitation:
   - Monitor volume status and hemodynamics
   .
   # Hyperglycemia:  likely due to D5W for management of hypernatremia
   - insulin sliding scale
   .
   # FEN: No IVF, replete electrolytes, picc line,  TPN, TF
   # Prophylaxis: pneumoboots for now
   # Access: PICC
   # Communication: daughter [**Name (NI) 532**] [**Known lastname 12477**] is HCP [**Telephone/Fax (1) 12482**].
   # Code:  Full per HCP daughter
   # Disposition: ICU pending clinical improvement
 discuss D/C to
   [**Hospital1 **] with CM
   ICU Care
   Nutrition:
   TPN without Lipids - [**2123-5-23**] 03:21 PM 75 mL/hour
   Vivonex (Full) - [**2123-5-24**] 04:34 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2123-5-16**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2123-05-24 12:08:00 Physician Attending Progress Note
Chief Complaint: Abdominal sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   TF advanced to 20cc/hr last PM --> some leakage of TFs from JP#3
   24 Hour Events:
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Iodine; Iodine Containing
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2123-5-21**] 08:06 PM
   Micafungin - [**2123-5-24**] 06:22 AM
   Meropenem - [**2123-5-24**] 08:34 AM
   Metronidazole - [**2123-5-24**] 10:18 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2123-5-24**] 08:34 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Tachycardia
   Nutritional Support: Tube feeds, Parenteral nutrition
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2123-5-24**] 12:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**25**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.5
   HR: 117 (91 - 117) bpm
   BP: 136/83(93) {71/22(31) - 155/91(105)} mmHg
   RR: 30 (23 - 38) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,992 mL
                                                                  1,620 mL
   PO:
             TF:
                                                                    332 mL
                                                                    192 mL
   IVF:
                                                                    861 mL
                                                                    530 mL
   Blood products:
   Total out:
                                                                  3,192 mL
                                                                  1,500 mL
   Urine:
                                                                  2,300 mL
                                                                  1,070 mL
   NG:
                                                                    257 mL
                                                                     70 mL
   Stool:
   Drains:
                                                                    635 mL
                                                                    360 mL
   Balance:
                                                                   -200 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: throughout)
   Abdominal: Non-tender, Distended, abd dressings in place - continued
   drainage from midline incision
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   328 K/uL
   150 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.7 mEq/L
   46 mg/dL
   114 mEq/L
   143 mEq/L
   27.5 %
   13.3 K/uL
        [image002.jpg]
                             [**2123-5-19**]  03:09 PM
                             [**2123-5-19**]  04:44 PM
                             [**2123-5-20**]  04:18 AM
                             [**2123-5-20**]  02:06 PM
                             [**2123-5-20**]  05:44 PM
                             [**2123-5-21**]  04:15 AM
                             [**2123-5-22**]  04:05 AM
                             [**2123-5-23**]  02:24 AM
                             [**2123-5-23**]  02:47 PM
                             [**2123-5-24**]  04:53 AM
   WBC
   14.2
   12.7
   17.1
   15.1
   13.3
   Hct
   29.1
   26.5
   28.2
   27.5
   27.6
   28.6
   28.4
   27.5
   Plt
   390
   359
   445
   374
   328
   Cr
   0.9
   1.0
   0.9
   0.8
   0.8
   0.8
   TCO2
   21
   Glucose
   135
   110
   201
   122
   132
   150
   Other labs: PT / PTT / INR:14.4/28.6/1.3, ALT / AST:79/49, Alk Phos / T
   Bili:321/4.2, Amylase / Lipase:/21, Differential-Neuts:78.0 %, Band:0.0
   %, Lymph:14.0 %, Mono:6.0 %, Eos:0.0 %, Lactic Acid:1.8 mmol/L,
   Albumin:2.4 g/dL, LDH:246 IU/L, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ELECTROLYTE & FLUID DISORDER, OTHER
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 ALTERATION IN NUTRITION
 HYPERNATREMIA (HIGH SODIUM)
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 WOUND INFECTION
   74 yo with abdominal sepsis, multiple surgeries post gastric artery
   laceration during ERCP.
   Polymicrobial infection: Cont vanc/[**Last Name (un) **]/micafungin/flagyl for 6 weeks.
   Appreciate ongoing ID input
   Respiratory failure: Trach masking consistently
   Nutrition: Advance TFs to 30cc/hr today
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2123-5-23**] 03:21 PM 75 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2123-5-16**] 02:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill